2180-02-29 22:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2180-2-28**] 09:00 PM
 ARTERIAL LINE - START [**2180-2-28**] 10:00 PM
 MULTI LUMEN - START [**2180-2-28**] 10:00 PM
 BLOOD CULTURED - At [**2180-2-29**] 06:46 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2180-2-29**] 08:28 AM
   Fluconazole - [**2180-2-29**] 09:28 AM
   Metronidazole - [**2180-2-29**] 11:00 AM
   Meropenem - [**2180-2-29**] 02:05 PM
   Piperacillin/Tazobactam (Zosyn) - [**2180-2-29**] 08:00 PM
   Infusions:
   Fentanyl - 125 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Fentanyl - [**2180-2-29**] 05:15 AM
   Heparin Sodium (Prophylaxis) - [**2180-2-29**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-2-29**] 09:59 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.5
C (97.7
   HR: 108 (84 - 127) bpm
   BP: 131/70(94) {83/49(66) - 166/109(133)} mmHg
   RR: 13 (10 - 24) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 127 kg (admission): 127 kg
    CVP: 9 (6 - 9)mmHg
   Total In:
                                                                     13 mL
                                                                  6,372 mL
   PO:
   TF:
   IVF:
                                                                     13 mL
                                                                  4,966 mL
   Blood products:
                                                                  1,250 mL
   Total out:
                                                                     45 mL
                                                                  2,205 mL
   Urine:
                                                                     45 mL
                                                                  1,145 mL
   NG:
                                                                    170 mL
   Stool:
   Drains:
                                                                    890 mL
   Balance:
                                                                    -32 mL
                                                                  4,167 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 700) mL
   Vt (Spontaneous): 560 (550 - 565) mL
   PS : 5 cmH2O
   RR (Set): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: 7.40/33/153/21/-2
   Ve: 7.7 L/min
   PaO2 / FiO2: 383
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   460 K/uL
   11.7 g/dL
   120 mg/dL
   0.4 mg/dL
   21 mEq/L
   4.6 mEq/L
   10 mg/dL
   108 mEq/L
   136 mEq/L
   26.7 %
   25.5 K/uL
        [image002.jpg]
                             [**2180-2-25**]  05:43 PM
                             [**2180-2-28**]  11:23 PM
                             [**2180-2-28**]  11:40 PM
                             [**2180-2-29**]  02:25 AM
                             [**2180-2-29**]  03:52 AM
                             [**2180-2-29**]  05:35 AM
                             [**2180-2-29**]  06:01 AM
                             [**2180-2-29**]  12:56 PM
                             [**2180-2-29**]  03:22 PM
                             [**2180-2-29**]  03:40 PM
   WBC
   27.4
   37.6
   25.5
   Hct
   26.9
   38.7
   32.3
   35.2
   26.8
   26.7
   Plt
   [**Telephone/Fax (3) 2040**]
   Cr
   0.8
   0.4
   0.4
   TCO2
   22
   22
   22
   21
   Glucose
   85
   120
   Other labs: PT / PTT / INR:15.8/31.1/1.4, ALT / AST:70/170, Alk Phos /
   T Bili:90/4.9, Amylase / Lipase:43/141, Differential-Neuts:87.0 %,
   Band:1.0 %, Lymph:7.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:200 mg/dL,
   Lactic Acid:2.3 mmol/L, Albumin:1.5 g/dL, LDH:366 IU/L, Ca++:7.1 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   TPN without Lipids - [**2180-2-29**] 06:15 PM 41.[**Telephone/Fax (3) 1761**] mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2180-2-28**] 10:00 PM
   Multi Lumen - [**2180-2-28**] 10:00 PM
   20 Gauge - [**2180-2-29**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2180-03-01 07:49:00 Physician Resident Progress Note
Chief Complaint: 44 yo F with pelvic mass s/p supracervical
   hysterectomy and BSO, c/b SBO s/p resection and colostomy now with
   recent SB perforation s/p SB resection and side-side anastomosis with
   open abdomen in [**Hospital Unit Name 44**] for monitoring until OR for closure
   24 Hour Events:
   -HCT dropped from 38 to 26, likely partially dilutional,  transfused 2
   units PRBCs
   -per ID recs Abx changed to vanc/zosyn/fluc, no [**Last Name (un) 430**]/dapto for now. Rec
   culture off lines and peripheral, urine and intraabdominal (when
   returns to OR in am)
   -well sedated
   -continues to be tachycardic, some response to IVF/blood
   -Per OB, prelim path is GIST
   - no new growth on cultures, cultured from a-line and IJ today.
   -maintained goal UOP >60cc/hour
   -FSBS well controlled, no need for insulin gtt
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2180-2-29**] 08:28 AM
   Fluconazole - [**2180-2-29**] 09:28 AM
   Metronidazole - [**2180-2-29**] 11:00 AM
   Meropenem - [**2180-2-29**] 02:05 PM
   Piperacillin/Tazobactam (Zosyn) - [**2180-3-1**] 02:00 AM
   Vancomycin - [**2180-3-1**] 07:30 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2180-3-1**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-3-1**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.5
C (97.7
   HR: 99 (97 - 127) bpm
   BP: 132/63(86) {83/49(66) - 150/100(113)} mmHg
   RR: 9 (6 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 127 kg (admission): 127 kg
    CVP: 10 (9 - 10)mmHg
   Total In:
                                                                  6,560 mL
                                                                    914 mL
   PO:
   TF:
   IVF:
                                                                  5,071 mL
                                                                    595 mL
   Blood products:
                                                                  1,250 mL
   Total out:
                                                                  2,635 mL
                                                                  1,450 mL
   Urine:
                                                                  1,525 mL
                                                                  1,320 mL
   NG:
                                                                    170 mL
                                                                     60 mL
   Stool:
   Drains:
                                                                    940 mL
                                                                     70 mL
   Balance:
                                                                  3,925 mL
                                                                   -536 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 800 (504 - 800) mL
   PS : 5 cmH2O
   RR (Set): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: 7.38/38/165/23/-1
   Ve: 5.6 L/min
   PaO2 / FiO2: 412
   Physical Examination
   Gen: sedated, anasarca, ventilated, NAD
   CV: hyperdynamic, nl S1, S2, tachycardic.  + S4
   Lungs: Bilateral crackles at bases, mechanical breath sounds
   Abd: open wound, no erythema at incision site, hypoactive BS
   Ext: diffuse [**1-25**]+ pitting edema BLE, BUE and trunk
   Labs / Radiology
   313 K/uL
   10.4 g/dL
   126 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.6 mEq/L
   8 mg/dL
   111 mEq/L
   140 mEq/L
   30.7 %
   13.8 K/uL
        [image002.jpg]
                             [**2180-2-29**]  02:25 AM
                             [**2180-2-29**]  03:52 AM
                             [**2180-2-29**]  05:35 AM
                             [**2180-2-29**]  06:01 AM
                             [**2180-2-29**]  12:56 PM
                             [**2180-2-29**]  03:22 PM
                             [**2180-2-29**]  03:40 PM
                             [**2180-2-29**]  10:22 PM
                             [**2180-2-29**]  10:30 PM
                             [**2180-3-1**]  03:44 AM
   WBC
   25.5
   13.8
   Hct
   32.3
   35.2
   26.8
   26.7
   33.7
   30.7
   Plt
   460
   313
   Cr
   0.4
   0.4
   TCO2
   22
   22
   21
   23
   Glucose
   120
   126
   Other labs: PT / PTT / INR:18.5/36.2/1.7, ALT / AST:45/88, Alk Phos / T
   Bili:71/4.7, Amylase / Lipase:43/141, Differential-Neuts:87.0 %,
   Band:1.0 %, Lymph:7.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:200 mg/dL,
   Lactic Acid:2.3 mmol/L, Albumin:1.5 g/dL, LDH:237 IU/L, Ca++:7.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   44 yo F with pelvic mass s/p supracervical hysterectomy and BSO, c/b
   SBO s/p resection and colostomy now with recent SB perforation s/p SB
   resection and side-side anastomosis with open abdomen in [**Hospital Unit Name 44**] for
   monitoring until OR for closure
   1. Small bowel perforation s/p anastomosis from small bowel perforation
   awaiting return to OR
   - appreciate OB-gyn and general surgery recs
   - antibiotic coverage switch to vanco/pip-tazo/fluc per ID
   recommendations
   - follow-up peritoneal fluid cultures- still NGTD
   - leucocytosis improving; afebrile
   - will hold off on OR today per surgery to first remove fluid- patient
   with severe anasarca and volume overload
   2. Respiratory- alkalosis improved; last PH 7.38 with PO2 165
   - decrease FiO2 further to 30-35%
   - maintain sedation for OR
   3. Leukocytosis- improving.  Most likely GI source
   - cont vanco/pip-tazo/fluc per ID
   - fever curve improved
   - recent cultures NGTD; will need re-culture of peritoneal fluid in OR
   - pan-culture if spikes
   4. Anasarca
   - likely from IVFs, deconditioning, low albumin
   - will start furosemide gtt today for volume removal.  Goal -2L today.
   Titrate to goal I/O or UOP
   - d/w surger regarding amount of fluid removal for operative closure of
   abdominal wound
   5. [**Name (NI) 367**]
   Unclear etiology for patient's [**Name (NI) **]. Differential includes
   most likely elevated LFTs secondary to sepsis and rising LFTs.
   - continue to trend- improving
   - appreciate hepatology recs
   - Hep A, B, C negative.  HepBsAB +
   - alpha 1 antitrypsin- 233 (slightly elevated)- difficult to interpret
   in this setting.  cerruloplasmin pending
   6. DVT
   Patient was previously maintained on heparin gtt but had IVC filter
   placed in the setting of emergent OR.
   - IVC filter in place
   - hold off on heparin in the setting of likely return to the OR and
   persistently open abdomen
   7. Altered Mental Status
   Patient reportedly had altered mental status earlier this admission,
   thought possibly secondary to hepatic encephalopathy. Reportedly much
   improved prior to return to OR.
   - continue to monitor
   - will consider re-evaluation once patient is s/p return to the OR
   7. Hypertension- previously HTN, but now normotensive to slightly
   hypotensive
   - con
t to hold HTN medications.  monitor
   ICU Care
   Nutrition:
   TPN without Lipids - [**2180-2-29**] 06:15 PM 41.[**Telephone/Fax (3) 1761**] mL/hour
   Glycemic Control:  adequate for now; consider insulin gtt if necessary
   Lines:
   Arterial Line - [**2180-2-28**] 10:00 PM
   Multi Lumen - [**2180-2-28**] 10:00 PM
   20 Gauge - [**2180-2-29**] 12:00 PM
   Prophylaxis:
   DVT:  hep sc
   Stress ulcer: famotidine
   VAP:  mouth care, chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU while awaiting for OR

2180-03-02 07:21:00 Physician Resident Progress Note
Chief Complaint: 44 yo F with pelvic mass s/p supracervical
   hysterectomy and BSO, c/b SBO s/p resection and colostomy now with
   recent SB perforation s/p SB resection and side-side anastomosis with
   open abdomen in [**Hospital Unit Name 44**] for monitoring until OR for closure
   24 Hour Events:
 ARTERIAL LINE - STOP [**2180-3-1**] 11:59 PM
   - Started lasix gtt for diuresis, plan for OR in am
   - Started TPN
   - PM lytes ok (inc chloride)
   - [**Doctor First Name **] recs: plan for OR tomorrow, no new recs
   - ID recs:cont current abx, follow cx and narrow as appropriate
   - No new gyn recs, came to see pt, feel surgery is running the show...
   - [**Doctor First Name **] rec stopping lasix drip around 2200 as 2L negative, holding and
   will restart if becomes more positive
   - Lost brachial a-line, two attempts to replace radial line and then
   stopped - pressures stable, can be placed in OR today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2180-2-29**] 08:28 AM
   Fluconazole - [**2180-2-29**] 09:28 AM
   Metronidazole - [**2180-2-29**] 11:00 AM
   Meropenem - [**2180-2-29**] 02:05 PM
   Vancomycin - [**2180-3-1**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2180-3-2**] 01:53 AM
   Infusions:
   Midazolam (Versed) - 7 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2180-3-1**] 02:00 PM
   Heparin Sodium (Prophylaxis) - [**2180-3-2**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-3-2**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 91 (86 - 102) bpm
   BP: 102/61(69) {96/50(61) - 106/61(70)} mmHg
   RR: 9 (6 - 15) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 127 kg (admission): 127 kg
    CVP: 14 (14 - 14)mmHg
   Total In:
                                                                  2,737 mL
                                                                    767 mL
   PO:
   TF:
   IVF:
                                                                  1,664 mL
                                                                    385 mL
   Blood products:
   Total out:
                                                                  5,160 mL
                                                                    910 mL
   Urine:
                                                                  4,950 mL
                                                                    860 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
                                                                    150 mL
                                                                     50 mL
   Balance:
                                                                 -2,423 mL
                                                                   -143 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 704 (170 - 750) mL
   PS : 12 cmH2O
   RR (Set): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 100%
   ABG: ///27/
   Ve: 6 L/min
   Physical Examination
   Gen: sedated, anasarca, ventilated, NAD
   CV: hyperdynamic, nl S1, S2, tachycardic.  + S4
   Lungs: Bilateral crackles at bases, mechanical breath sounds
   Abd: open wound, no erythema at incision site, hypoactive BS
   Ext: diffuse [**1-25**]+ pitting edema BLE, BUE and trunk
   Labs / Radiology
   319 K/uL
   10.1 g/dL
   109 mg/dL
   0.3 mg/dL
   27 mEq/L
   3.9 mEq/L
   9 mg/dL
   113 mEq/L
   146 mEq/L
   31.4 %
   9.7 K/uL
        [image002.jpg]
                             [**2180-2-29**]  05:35 AM
                             [**2180-2-29**]  06:01 AM
                             [**2180-2-29**]  12:56 PM
                             [**2180-2-29**]  03:22 PM
                             [**2180-2-29**]  03:40 PM
                             [**2180-2-29**]  10:22 PM
                             [**2180-2-29**]  10:30 PM
                             [**2180-3-1**]  03:44 AM
                             [**2180-3-1**]  03:56 PM
                             [**2180-3-2**]  04:01 AM
   WBC
   25.5
   13.8
   9.7
   Hct
   35.2
   26.8
   26.7
   33.7
   30.7
   31.4
   Plt
   460
   313
   319
   Cr
   0.4
   0.4
   0.3
   0.3
   TCO2
   22
   21
   23
   Glucose
   120
   126
   121
   109
   Other labs: PT / PTT / INR:15.8/65.7/1.4, ALT / AST:43/73, Alk Phos / T
   Bili:73/2.9, Amylase / Lipase:26/121, Differential-Neuts:87.0 %,
   Band:1.0 %, Lymph:7.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:200 mg/dL,
   Lactic Acid:2.3 mmol/L, Albumin:1.6 g/dL, LDH:233 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   44 yo F with pelvic mass s/p supracervical hysterectomy and BSO, c/b
   SBO s/p resection and colostomy now with recent SB perforation s/p SB
   resection and side-side anastomosis with open abdomen in [**Hospital Unit Name 44**] for
   monitoring until OR for closure
    1. Small bowel perforation s/p anastomosis from small bowel
   perforation awaiting return to OR
   - appreciate OB-gyn and general surgery recs
   - antibiotic coverage switch to vanco/pip-tazo/fluc per ID
   recommendations
   - follow-up peritoneal fluid cultures- still NGTD
   - leucocytosis improving; afebrile
   - will hold off on OR today per surgery to first remove fluid- patient
   with severe anasarca and volume overload
   2. Respiratory- alkalosis improved; last PH 7.38 with PO2 165
   - decrease FiO2 further to 30-35%
   - maintain sedation for OR
   3. Leukocytosis- improving.  Most likely GI source
   - cont vanco/pip-tazo/fluc per ID
   - fever curve improved
   - recent cultures NGTD; will need re-culture of peritoneal fluid in OR
   - pan-culture if spikes
   4. Anasarca
   - likely from IVFs, deconditioning, low albumin
   - will start furosemide gtt today for volume removal.  Goal -2L today.
   Titrate to goal I/O or UOP
   - d/w surger regarding amount of fluid removal for operative closure of
   abdominal wound
   5. [**Name (NI) 367**]
   Unclear etiology for patient's [**Name (NI) **]. Differential includes
   most likely elevated LFTs secondary to sepsis and rising LFTs.
   - continue to trend- improving
   - appreciate hepatology recs
   - Hep A, B, C negative.  HepBsAB +
   - alpha 1 antitrypsin- 233 (slightly elevated)- difficult to interpret
   in this setting.  cerruloplasmin pending
   6. DVT
   Patient was previously maintained on heparin gtt but had IVC filter
   placed in the setting of emergent OR.
   - IVC filter in place
   - hold off on heparin in the setting of likely return to the OR and
   persistently open abdomen
   7. Altered Mental Status
   Patient reportedly had altered mental status earlier this admission,
   thought possibly secondary to hepatic encephalopathy. Reportedly much
   improved prior to return to OR.
   - continue to monitor
   - will consider re-evaluation once patient is s/p return to the OR
   8. Hypertension- previously HTN, but now normotensive to slightly
   hypotensive
   - con
t to hold HTN medications.  monitor
   ICU Care
   Nutrition:
   TPN without Lipids - [**2180-2-29**] 06:15 PM 41.[**Telephone/Fax (3) 1761**] mL/hour
   Glycemic Control:  adequate for now; consider insulin gtt if necessary
   Lines:
   Arterial Line - [**2180-2-28**] 10:00 PM
   Multi Lumen - [**2180-2-28**] 10:00 PM
   20 Gauge - [**2180-2-29**] 12:00 PM
   Prophylaxis:
   DVT:  hep sc
   Stress ulcer: famotidine
   VAP:  mouth care, chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU while awaiting for OR

2180-03-03 07:48:00 Physician Resident Progress Note
Chief Complaint: 44 yo F with pelvic mass c/w GIST s/p supracervical
   hysterectomy and BSO, c/b SBO s/p resection and colostomy now with
   recent SB perforation s/p SB resection and side-side anastomosis with
   open abdomen in [**Hospital Unit Name 44**] for monitoring until OR for closure
   24 Hour Events:
 OR SENT - At [**2180-3-2**] 05:44 PM
   - taken to OR.  didn't close abd wound [**12-25**] edema
   - surgery recommended -500 cc to -1L overnight, no more.  will
   re-evaluate in AM
   - want her completely sedated and on AC vent settings; concern is for
   evisceration
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2180-2-29**] 08:28 AM
   Metronidazole - [**2180-2-29**] 11:00 AM
   Meropenem - [**2180-2-29**] 02:05 PM
   Fluconazole - [**2180-3-2**] 09:56 AM
   Vancomycin - [**2180-3-2**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2180-3-3**] 12:00 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2180-3-2**] 10:15 AM
   Fentanyl - [**2180-3-2**] 10:15 AM
   Famotidine (Pepcid) - [**2180-3-3**] 02:38 AM
   Heparin Sodium (Prophylaxis) - [**2180-3-3**] 02:38 AM
   Other medications:
   Changes to medical and family history: no changes
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-3-3**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.9
C (96.6
   HR: 85 (74 - 101) bpm
   BP: 111/69(79) {94/53(63) - 121/78(89)} mmHg
   RR: 11 (10 - 14) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 126 kg (admission): 127 kg
   Height: 61 Inch
    CVP: 8 (8 - 14)mmHg
   Total In:
                                                                  3,380 mL
                                                                    756 mL
   PO:
   TF:
   IVF:
                                                                  2,232 mL
                                                                    350 mL
   Blood products:
   Total out:
                                                                  2,680 mL
                                                                  2,010 mL
   Urine:
                                                                  2,510 mL
                                                                  1,960 mL
   NG:
                                                                    120 mL
   Stool:
   Drains:
                                                                     50 mL
                                                                     50 mL
   Balance:
                                                                    700 mL
                                                                 -1,254 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 10
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 5 L/min
   Physical Examination
   Gen: sedated, anasarca, ventilated, NAD
   CV: hyperdynamic, nl S1, S2, tachycardic.  + S4
   Lungs: Bilateral crackles at bases, mechanical breath sounds
   Abd: open wound, no erythema at incision site, hypoactive BS
   Ext: diffuse [**1-25**]+ pitting edema BLE, BUE and trunk
   Labs / Radiology
   369 K/uL
   10.4 g/dL
   121 mg/dL
   0.4 mg/dL
   30 mEq/L
   3.9 mEq/L
   10 mg/dL
   111 mEq/L
   145 mEq/L
   32.7 %
   7.7 K/uL
        [image002.jpg]
                             [**2180-2-29**]  03:22 PM
                             [**2180-2-29**]  03:40 PM
                             [**2180-2-29**]  10:22 PM
                             [**2180-2-29**]  10:30 PM
                             [**2180-3-1**]  03:44 AM
                             [**2180-3-1**]  03:56 PM
                             [**2180-3-2**]  04:01 AM
                             [**2180-3-2**]  07:39 PM
                             [**2180-3-3**]  05:08 AM
                             [**2180-3-3**]  05:27 AM
   WBC
   13.8
   9.7
   10.9
   7.5
   7.7
   Hct
   26.7
   33.7
   30.7
   31.4
   37.1
   32.4
   32.7
   Plt
   [**Telephone/Fax (3) 2076**]26
   369
   Cr
   0.4
   0.3
   0.3
   0.3
   0.4
   TCO2
   21
   23
   Glucose
   126
   121
   109
   90
   121
   Other labs: PT / PTT / INR:15.5/43.2/1.4, ALT / AST:43/73, Alk Phos / T
   Bili:73/2.9, Amylase / Lipase:26/121, Differential-Neuts:87.0 %,
   Band:1.0 %, Lymph:7.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:200 mg/dL,
   Lactic Acid:2.3 mmol/L, Albumin:1.6 g/dL, LDH:233 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   44 yo F with pelvic mass s/p supracervical hysterectomy and BSO, c/b
   SBO s/p resection and colostomy now with recent SB perforation s/p SB
   resection and side-side anastomosis with open abdomen in [**Hospital Unit Name 44**] for
   monitoring until OR for closure
    1. Small bowel perforation s/p anastomosis from small bowel
   perforation awaiting return to OR for closure
   - appreciate OB-gyn and general surgery recs
   - cont  vanco/pip-tazo/fluc per ID recommendations
   - follow-up peritoneal fluid cultures- still NGTD. Repeated yesterday
   in OR
   - leucocytosis improving; afebrile
   - goal diuresis -2L today for another attempt in OR for closure
   possibly tomorrow
   - cont to monitor I/Os and keep net goal negative
   2. Respiratory- on minimal vent support settings.
   - on AC with minimal vent settings.  sedated
   3. Leukocytosis- improving.  Most likely GI source
   - cont vanco/pip-tazo/fluc per ID
   - fever curve improved
   - recent cultures NGTD; re-cultured.  NGTD.  Gram stain without
   organisms
   - pan-culture if spikes
   4. Anasarca
   - likely from IVFs, deconditioning, low albumin
   - negative 2 L today per surgical team for possible closure tomorrow.
   They recommended 25%albumin q8H.  will d/w team and surgical team
   regarding albumin use.  Patient diuresing well without it
   5. [**Name (NI) 367**]
   Unclear etiology for patient's [**Name (NI) **]. Differential includes
   most likely elevated LFTs secondary to sepsis and rising LFTs.
   - continue to trend- improving
   - appreciate hepatology recs
   - Hep A, B, C negative.  HepBsAB +
   - alpha 1 antitrypsin- 233 (slightly elevated)- difficult to interpret
   in this setting.  cerruloplasmin normal
   6. DVT
   Patient was previously maintained on heparin gtt but had IVC filter
   placed in the setting of emergent OR.
   - IVC filter in place
   - hold off on heparin in the setting of likely return to the OR and
   persistently open abdomen
   7. Altered Mental Status
   Patient reportedly had altered mental status earlier this admission,
   thought possibly secondary to hepatic encephalopathy. Reportedly much
   improved prior to return to OR.
   - continue to monitor
   - will consider re-evaluation once patient is s/p return to the OR
   8. Hypertension- previously HTN, but now normotensive to slightly
   hypotensive
   - con
t to hold HTN medications.  monitor
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2180-3-2**] 07:30 PM 52.[**Telephone/Fax (5) 2077**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-2-28**] 10:00 PM
   20 Gauge - [**2180-2-29**] 12:00 PM
   Prophylaxis:
   DVT: heparin, pneumoboots
   Stress ulcer: famotidine
   VAP:  mouth care
   Comments: on air mattress.  Multipodus boots per surgical team
   Communication:  Comments:
   Code status: Full code
   Disposition: awaiting OR

2180-03-04 07:13:00 Physician Resident Progress Note
Chief Complaint: 44 yo F with pelvic mass c/w GIST s/p supracervical
   hysterectomy and BSO, c/b SBO s/p resection and colostomy now with
   recent SB perforation s/p SB resection and side-side anastomosis with
   open abdomen in [**Hospital Unit Name 44**] for monitoring until OR for closure
   24 Hour Events:
   -Evening HCT down to 28 from 32.7 yesterday am; however, this is around
   baseline.  Hemodynamically stable. Repeat at MN 30, stable this mroning
   -I/O:  restarted lasix gtt as pt 1L neg at 2130 after getting abx. Held
   after 2:00am but continuing to autodiurese.
   -Gyn recs, continue current mgmt
   -[**Doctor First Name **] recs, goal at least 2L neg, to OR tomorrow morning.
   - PTT elevated this am to 102, on repeat 83, drawn off heparinized
   line, patient with significant anasarca so unable to get peripheral
   stick
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2180-3-3**] 11:00 AM
   Vancomycin - [**2180-3-3**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2180-3-4**] 12:07 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2180-3-4**] 02:00 AM
   Heparin Sodium (Prophylaxis) - [**2180-3-4**] 02:00 AM
   Fentanyl - [**2180-3-4**] 02:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-3-4**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.7
C (96.2
   HR: 71 (59 - 86) bpm
   BP: 142/79(93) {98/61(70) - 144/81(95)} mmHg
   RR: 18 (10 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 126 kg (admission): 127 kg
   Height: 61 Inch
    CVP: 10 (10 - 15)mmHg
   Total In:
                                                                  3,007 mL
                                                                    869 mL
   PO:
   TF:
   IVF:
                                                                  1,652 mL
                                                                    395 mL
   Blood products:
                                                                    100 mL
                                                                    100 mL
   Total out:
                                                                  4,660 mL
                                                                  2,165 mL
   Urine:
                                                                  4,610 mL
                                                                  2,065 mL
   NG:
   Stool:
   Drains:
                                                                     50 mL
                                                                    100 mL
   Balance:
                                                                 -1,653 mL
                                                                 -1,296 mL
   Respiratory support
   Ventilator mode: CMV
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 26 cmH2O
   Plateau: 18 cmH2O
   Compliance: 42.3 cmH2O/mL
   SpO2: 100%
   Ve: 6.4 L/min
   Physical Examination
   Gen: sedated, anasarca, ventilated, NAD
   CV: nl S1, S2, RRR
   Lungs: Bilateral crackles at bases, mechanical breath sounds
   Abd: open wound, no erythema at incision site, hypoactive BS
   Ext: diffuse [**1-25**]+ pitting edema BLE, BUE and trunk
   Labs / Radiology
   269 K/uL
   9.2 g/dL
   116
   0.3 mg/dL
   31 mEq/L
   3.6 mEq/L
   9 mg/dL
   108 mEq/L
   146 mEq/L
   28.1 %
   5.5 K/uL
        [image002.jpg]
                             [**2180-3-1**]  03:44 AM
                             [**2180-3-1**]  03:56 PM
                             [**2180-3-2**]  04:01 AM
                             [**2180-3-2**]  07:39 PM
                             [**2180-3-3**]  05:08 AM
                             [**2180-3-3**]  05:27 AM
                             [**2180-3-3**]  06:55 PM
                             [**2180-3-3**]  11:46 PM
                             [**2180-3-4**]  04:20 AM
                             [**2180-3-4**]  06:00 AM
   WBC
   13.8
   9.7
   10.9
   7.5
   7.7
   5.5
   Hct
   30.7
   31.4
   37.1
   32.4
   32.7
   28.1
   30.0
   28.1
   Plt
   [**Telephone/Fax (3) 2076**]26
   369
   269
   Cr
   0.4
   0.3
   0.3
   0.3
   0.4
   0.3
   Glucose
   126
   121
   109
   90
   121
   107
   116
   Other labs: PT / PTT / INR:15.1/83.3/1.3, ALT / AST:36/75, Alk Phos / T
   Bili:68/2.7, Amylase / Lipase:26/121, Differential-Neuts:87.0 %,
   Band:1.0 %, Lymph:7.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:200 mg/dL,
   Lactic Acid:2.3 mmol/L, Albumin:1.6 g/dL, LDH:191 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Imaging: No new radiology
   Microbiology: [**3-2**] Peritoneal fluid: Gram stain 2+ PMNs, Cx: NGTD
    [**3-1**] Urine Cx: NG
   [**2-29**] Bcx x2: NGTD
   Assessment and Plan
   44 yo F with pelvic mass s/p supracervical hysterectomy and BSO, c/b
   SBO s/p resection and colostomy now with recent SB perforation s/p SB
   resection and side-side anastomosis with open abdomen in [**Hospital Unit Name 44**] for
   monitoring until OR for closure
    1. Small bowel perforation s/p anastomosis from small bowel
   perforation awaiting return to OR for closure
   - Appreciate OB-gyn and general surgery recs
   - Cont  vanco/pip-tazo/fluc per ID recommendations until [**3-10**].
   - Follow-up peritoneal fluid cultures- still NGTD. Repeated in OR
   - Leukocytosis improving; afebrile
   - Goal diuresis at least -2L today per surgery for another attempt in
   OR for closure tomorrow
   - Cont to monitor I/Os, lasix gtt to maintain goals
   2. Respiratory- On minimal vent support settings.
   - On AC with minimal vent settings.  Sedated
   3. Leukocytosis- Improving.  Most likely GI source
   - cont vanco/pip-tazo/fluc per ID as above
   - Fever curve improved
   - Recent cultures NGTD; re-cultured.  NGTD.  Gram stain without
   organisms
   - Pan-culture if spikes
   4. Anasarca
   - Likely from IVFs, deconditioning, low albumin
   - I/O goals as above.
   - 25%albumin q8H per surgery recommendations, will continue to
   re-evaluate
   5. [**Name (NI) 367**]
   Unclear etiology for patient's [**Name (NI) **]. Differential includes
   most likely elevated LFTs secondary to sepsis and rising LFTs.
   - Continue to trend- improving
   - appreciate hepatology recs
   - Hep A, B, C negative.  HepBsAB +
   - Alpha 1 antitrypsin- 233 (slightly elevated)- difficult to interpret
   in this setting.  Ceruloplasmin normal.
   6. DVT
   Patient was previously maintained on heparin gtt but had IVC filter
   placed in the setting of emergent OR.
   - IVC filter in place
   - Hold off on heparin in the setting of likely return to the OR and
   persistently open abdomen
   7. Altered Mental Status
   Patient reportedly had altered mental status earlier this admission,
   thought possibly secondary to hepatic encephalopathy. Reportedly much
   improved prior to return to OR, now sedated and unable to assess.
   - Will re-evaluate once patient is s/p return to the OR
   8. Hypertension- previously HTN, but now normotensive to slightly
   hypotensive
   - Con
t to hold HTN medications and monitor VS
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2180-3-3**] 07:00 PM 52.[**Telephone/Fax (5) 2077**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-2-28**] 10:00 PM
   Prophylaxis:
   DVT: heparin, pneumoboots
   Stress ulcer: famotidine
   VAP:  mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: awaiting return to OR

2180-03-04 09:51:00 Physician Attending Progress Note
Chief Complaint: bowel perforation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Lasix gtts responding well
   HCT decreased but initially then plateaued
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2180-3-3**] 11:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2180-3-4**] 08:00 AM
   Vancomycin - [**2180-3-4**] 09:06 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2180-3-4**] 02:00 AM
   Heparin Sodium (Prophylaxis) - [**2180-3-4**] 02:00 AM
   Fentanyl - [**2180-3-4**] 09:07 AM
   Other medications:
   chlorhex
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-3-4**] 09:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.7
C (96.2
   HR: 85 (59 - 86) bpm
   BP: 126/80(91) {98/61(70) - 144/81(95)} mmHg
   RR: 16 (10 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 126 kg (admission): 127 kg
   Height: 61 Inch
   CVP: 9 (9 - 15)mmHg
   Total In:
                                                                  3,007 mL
                                                                  1,374 mL
   PO:
   TF:
   IVF:
                                                                  1,652 mL
                                                                    765 mL
   Blood products:
                                                                    100 mL
                                                                    100 mL
   Total out:
                                                                  4,660 mL
                                                                  2,765 mL
   Urine:
                                                                  4,610 mL
                                                                  2,665 mL
   NG:
   Stool:
   Drains:
                                                                     50 mL
                                                                    100 mL
   Balance:
                                                                 -1,653 mL
                                                                 -1,391 mL
   Respiratory support
   Ventilator mode: CMV
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 27 cmH2O
   Plateau: 17 cmH2O
   SpO2: 99%
   ABG: ///31/
   Ve: 6.4 L/min
   Physical Examination
   Gen: lyin gin bed, intubated and sedated
   HEENT: ETT, OG tube
   CV; RR nl s1/s2
   Chest: good air movement no wheezes
   Abd: open but covered with adhesive dressing
   Ext: [**11-24**]+ edema
   Neuro: sedated
   Labs / Radiology
   9.2 g/dL
   269 K/uL
   116
   0.3 mg/dL
   31 mEq/L
   3.6 mEq/L
   9 mg/dL
   108 mEq/L
   146 mEq/L
   28.1 %
   5.5 K/uL
        [image002.jpg]
                             [**2180-3-1**]  03:44 AM
                             [**2180-3-1**]  03:56 PM
                             [**2180-3-2**]  04:01 AM
                             [**2180-3-2**]  07:39 PM
                             [**2180-3-3**]  05:08 AM
                             [**2180-3-3**]  05:27 AM
                             [**2180-3-3**]  06:55 PM
                             [**2180-3-3**]  11:46 PM
                             [**2180-3-4**]  04:20 AM
                             [**2180-3-4**]  06:00 AM
   WBC
   13.8
   9.7
   10.9
   7.5
   7.7
   5.5
   Hct
   30.7
   31.4
   37.1
   32.4
   32.7
   28.1
   30.0
   28.1
   Plt
   [**Telephone/Fax (3) 2076**]26
   369
   269
   Cr
   0.4
   0.3
   0.3
   0.3
   0.4
   0.3
   Glucose
   126
   121
   109
   90
   121
   107
   116
   Other labs: PT / PTT / INR:15.1/83.3/1.3, ALT / AST:36/75, Alk Phos / T
   Bili:68/2.7, Amylase / Lipase:26/121, Differential-Neuts:87.0 %,
   Band:1.0 %, Lymph:7.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:200 mg/dL,
   Lactic Acid:2.3 mmol/L, Albumin:1.6 g/dL, LDH:191 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Microbiology: Peritoneal fluid 2+ PMN no growth to date
   Bl Cx x 2 from [**2-29**] NGTD
   Assessment and Plan
   44 yo F with pelvic mass (GIST tumor) s/p supracervical hysterectomy
   and BSO, c/b SBO s/p resection and colostomy now with recent SB
   perforation s/p SB resection and side-side anastomosis with open
   abdomen in [**Hospital Unit Name 44**] for monitoring until closure.
   Pt remains critically ill with several active issues
   1. Anasarca, with bowel edema.  Adjusting lasix gtt for volume off. Cr
   stable, bicarb and Na rising. Pushing as hard as possible for max
   negative for efforts to close abdomen in AM.
   2.  Resp Failure: volume overload, sedation with open abdomen
        Heavily sedated on fent 150/versed 2
 continue AC for now
   cannot wean until abdomen is closed
   3. Small bowel perforation s/p anastomosis from small bowel perforation
   awaiting return to OR for closure
   - appreciate OB-gyn and general surgery recs
   - cont  vanco/pip-tazo/fluc per ID recommendations
   - follow-up peritoneal fluid cultures- still NGTD.
   - leucocytosis improving; afebrile
   - goal diuresis -2L today for another attempt in OR for closure
   possibly tomorrow
   4. Leukocytosis- improving.  Most likely GI source
   - cont vanco/pip-tazo/fluc per ID
   - fever curve improved
   - recent cultures NGTD; re-cultured.  NGTD.  Gram stain without
   organisms
   5. DVT
   Patient was previously maintained on heparin gtt but had IVC filter
   placed in the setting of emergent OR.
   - IVC filter in place
   - hold off on heparin in the setting of likely return to the OR and
   persistently open abdomen
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2180-3-3**] 07:00 PM 52.[**Telephone/Fax (5) 2077**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-2-28**] 10:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB and mputh care
   Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 min, Remains critically ill

2180-03-05 07:26:00 Physician Resident Progress Note
Chief Complaint: 44 yo F with pelvic mass s/p supracervical
   hysterectomy and BSO, c/b SBO s/p resection and colostomy now with
   recent SB perforation s/p SB resection and side-side anastomosis with
   open abdomen in [**Hospital Unit Name 44**] for monitoring until OR for closure
   24 Hour Events:
 EKG - At [**2180-3-4**] 07:45 PM
   - Lasix gtt off after 2am, restated after rounds as UOP slowing
   - Goal diuresis 2-3L neg per surgery, -2L at 5pm. -2.9L at 7:00pm, -3.3
   at 8:30pm
   - Patient bradycardic in the 50s, ECG checked showing sinus rhythm,
   rate incr with stimulation
   - Gas checked, 7.5/45/170/36 - met alkalosis due to diuresis; lasix gtt
   held, given 2 doses of acetozolamide
   - Plan for OR first thing Sunday morning
   - 6 pm lytes: drawn at 3, lytes wnl
   - K with ABG at 8:30 was 3.6 -> repleted
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2180-3-4**] 10:07 AM
   Vancomycin - [**2180-3-4**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2180-3-5**] 12:03 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Fentanyl - [**2180-3-4**] 11:59 AM
   Famotidine (Pepcid) - [**2180-3-5**] 02:00 AM
   Heparin Sodium (Prophylaxis) - [**2180-3-5**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-3-5**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 73 (54 - 85) bpm
   BP: 119/73(84) {119/65(80) - 153/86(101)} mmHg
   RR: 11 (10 - 16) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 126 kg (admission): 127 kg
   Height: 61 Inch
    CVP: 9 (8 - 14)mmHg
   Total In:
                                                                  3,301 mL
                                                                    876 mL
   PO:
   TF:
   IVF:
                                                                  1,796 mL
                                                                    441 mL
   Blood products:
                                                                    250 mL
                                                                     50 mL
   Total out:
                                                                  6,835 mL
                                                                  2,360 mL
   Urine:
                                                                  6,735 mL
                                                                  2,360 mL
   NG:
   Stool:
   Drains:
                                                                    100 mL
   Balance:
                                                                 -3,534 mL
                                                                 -1,484 mL
   Respiratory support
   Ventilator mode: CMV
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 27 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.50/45/170/31/10
   Ve: 5.7 L/min
   PaO2 / FiO2: 425
   Physical Examination
   Gen: sedated, anasarca, ventilated, NAD
   CV: nl S1, S2, RRR
   Lungs: Bilateral crackles at bases, mechanical breath sounds
   Abd: open wound, no erythema at incision site, hypoactive BS
   Ext: diffuse 3+ pitting edema BLE, BUE and trunk
   Labs / Radiology
   247 K/uL
   8.7 g/dL
   107 mg/dL
   0.4 mg/dL
   31 mEq/L
   3.6 mEq/L
   10 mg/dL
   107 mEq/L
   143 mEq/L
   26.6 %
   5.6 K/uL
        [image002.jpg]
                             [**2180-3-2**]  07:39 PM
                             [**2180-3-3**]  05:08 AM
                             [**2180-3-3**]  05:27 AM
                             [**2180-3-3**]  06:55 PM
                             [**2180-3-3**]  11:46 PM
                             [**2180-3-4**]  04:20 AM
                             [**2180-3-4**]  06:00 AM
                             [**2180-3-4**]  03:28 PM
                             [**2180-3-4**]  07:54 PM
                             [**2180-3-5**]  03:54 AM
   WBC
   10.9
   7.5
   7.7
   5.5
   5.6
   Hct
   37.1
   32.4
   32.7
   28.1
   30.0
   28.1
   27.2
   26.6
   Plt
   384
   326
   369
   269
   247
   Cr
   0.3
   0.4
   0.3
   0.3
   0.4
   TCO2
   36
   Glucose
   90
   121
   107
   116
   105
   107
   Other labs: PT / PTT / INR:14.9/41.5/1.3, ALT / AST:38/76, Alk Phos / T
   Bili:71/3.0, Amylase / Lipase:26/121, Differential-Neuts:87.0 %,
   Band:1.0 %, Lymph:7.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:200 mg/dL,
   Lactic Acid:2.3 mmol/L, Albumin:2.7 g/dL, LDH:200 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   44 yo F with pelvic mass s/p supracervical hysterectomy and BSO, c/b
   SBO s/p resection and colostomy now with recent SB perforation s/p SB
   resection and side-side anastomosis with open abdomen in [**Hospital Unit Name 44**] for
   monitoring until OR for closure
     1. Small bowel perforation s/p anastomosis from small bowel
   perforation awaiting return to OR for closure
   - Appreciate OB-gyn and general surgery recs
   - Cont  vanco/pip-tazo/fluc per ID recommendations until [**3-10**].
   - Follow-up peritoneal fluid cultures. Repeated in OR- yeast so far
   - Leukocytosis improving; afebrile
   - could not close abdomen today; trying to bring abdominal wound closer
   together in stepwise fashion.  Con
t with goal diuresis of -2L daily
   - Cont to monitor I/Os, lasix gtt prn to maintain goals
   2. Respiratory- On minimal vent support settings.
   - On AC with minimal vent settings.  Sedated
   3. Leukocytosis- Improving.  Most likely GI source
   - cont vanco/pip-tazo/fluc per ID as above
   - Fever curve improved
   - Recent cultures NGTD; re-cultured.  yeast.  Gram stain without
   organisms
   - Pan-culture if spikes
   4. Anasarca
   - Likely from IVFs, deconditioning, low albumin
   - I/O goals as above.
   - 25%albumin q8H per surgery recommendations, will continue to
   re-evaluate; d/w surgery regarding stopping albumin
   5. [**Name (NI) 367**]
   Unclear etiology for patient's [**Name (NI) **]. Differential includes
   most likely elevated LFTs secondary to sepsis and rising LFTs.
   - Continue to trend- improving
   - liver biopsy done in OR today- will f/u results
   - Hep A, B, C negative.  HepBsAB +
   - Alpha 1 antitrypsin- 233 (slightly elevated)- difficult to interpret
   in this setting.  Ceruloplasmin normal.
   6. DVT
   Patient was previously maintained on heparin gtt but had IVC filter
   placed in the setting of emergent OR.
   - IVC filter in place
   - Hold off on heparin in the setting of likely return to the OR and
   persistently open abdomen
   7. Altered Mental Status
   Patient reportedly had altered mental status earlier this admission,
   thought possibly secondary to hepatic encephalopathy. Reportedly much
   improved prior to return to OR, now sedated and unable to assess.
   - Will re-evaluate once patient is s/p return to the OR
   8. Hypertension- previously HTN, but now normotensive
   - Con
t to hold HTN medications and monitor VS
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2180-3-4**] 06:59 PM 52.[**Telephone/Fax (5) 2077**] mL/hour
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2180-2-28**] 10:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: famotidine
   VAP:  mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU care ; awaiting abdominal closure once edema improves

2180-03-05 10:39:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 EKG - At [**2180-3-4**] 07:45 PM
   Lasix gtts needs to be turned off
   ABG 7.5/45/90
   Rx with two doses of acetazolamide to allow for ongoing diuresis in
   prep for OR
   To OR this AM but unable to close belly, fitted with mesh to allow for
   slow closure at bedside
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2180-3-4**] 10:07 AM
   Piperacillin/Tazobactam (Zosyn) - [**2180-3-5**] 07:43 AM
   Vancomycin - [**2180-3-5**] 08:21 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Fentanyl - [**2180-3-4**] 11:59 AM
   Famotidine (Pepcid) - [**2180-3-5**] 02:00 AM
   Heparin Sodium (Prophylaxis) - [**2180-3-5**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-3-5**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.1
C (96.9
   HR: 98 (54 - 98) bpm
   BP: 119/72(83) {119/65(80) - 153/86(101)} mmHg
   RR: 11 (10 - 13) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 126 kg (admission): 127 kg
   Height: 61 Inch
   CVP: 4 (4 - 14)mmHg
   Total In:
                                                                  3,301 mL
                                                                  2,126 mL
   PO:
   TF:
   IVF:
                                                                  1,796 mL
                                                                    828 mL
   Blood products:
                                                                    250 mL
                                                                    850 mL
   Total out:
                                                                  6,835 mL
                                                                  3,850 mL
   Urine:
                                                                  6,735 mL
                                                                  3,850 mL
   NG:
   Stool:
   Drains:
                                                                    100 mL
   Balance:
                                                                 -3,534 mL
                                                                 -1,724 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 10
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 26 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: 7.50/45/170/31/10
   Ve: 8.9 L/min
   PaO2 / FiO2: 425
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   247 K/uL
   107 mg/dL
   0.4 mg/dL
   31 mEq/L
   3.6 mEq/L
   10 mg/dL
   107 mEq/L
   143 mEq/L
   26.6 %
   5.6 K/uL
        [image002.jpg]
                             [**2180-3-2**]  07:39 PM
                             [**2180-3-3**]  05:08 AM
                             [**2180-3-3**]  05:27 AM
                             [**2180-3-3**]  06:55 PM
                             [**2180-3-3**]  11:46 PM
                             [**2180-3-4**]  04:20 AM
                             [**2180-3-4**]  06:00 AM
                             [**2180-3-4**]  03:28 PM
                             [**2180-3-4**]  07:54 PM
                             [**2180-3-5**]  03:54 AM
   WBC
   10.9
   7.5
   7.7
   5.5
   5.6
   Hct
   37.1
   32.4
   32.7
   28.1
   30.0
   28.1
   27.2
   26.6
   Plt
   384
   326
   369
   269
   247
   Cr
   0.3
   0.4
   0.3
   0.3
   0.4
   TCO2
   36
   Glucose
   90
   121
   107
   116
   105
   107
   Other labs: PT / PTT / INR:14.9/41.5/1.3, ALT / AST:38/76, Alk Phos / T
   Bili:71/3.0, Amylase / Lipase:26/121, Differential-Neuts:87.0 %,
   Band:1.0 %, Lymph:7.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:200 mg/dL,
   Lactic Acid:2.3 mmol/L, Albumin:2.7 g/dL, LDH:200 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Micro: yeast from peritoneal fluid
   Assessment and Plan
   44 yo F with pelvic mass (GIST tumor) s/p supracervical hysterectomy
   and BSO, c/b SBO s/p resection and colostomy now with recent SB
   perforation s/p SB resection and side-side anastomosis with open
   abdomen in [**Hospital Unit Name 44**] for monitoring until closure.
   Pt remains critically ill with several active issues
   1. Anasarca, with bowel edema.  Aggressive diuresis to try to achieve
   2.  Resp Failure: volume overload, sedation with open abdomen
         Heavily sedated on fent 150/versed 2
 continue AC for now
   cannot wean until abdomen is closed
   3. Small bowel perforation s/p anastomosis from small bowel perforation
   awaiting return to OR for closure
   - appreciate OB-gyn and general surgery recs
   - cont  vanco/pip-tazo/fluc per ID recommendations
   - follow-up peritoneal fluid cultures- still NGTD.
   - leucocytosis improving; afebrile
   - goal diuresis -2L today for another attempt in OR for closure
   possibly tomorrow
   4. Leukocytosis- improving.  Most likely GI source
   - cont vanco/pip-tazo/fluc per ID
   - fever curve improved
   - recent cultures NGTD; re-cultured.  NGTD.  Gram stain without
   organisms
   5. DVT
   Patient was previously maintained on heparin gtt but had IVC filter
   placed in the setting of emergent OR.
   - IVC filter in place
   - hold off on heparin in the setting of likely return to the OR and
   persistently open abdomen
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2180-3-4**] 06:59 PM 52.[**Telephone/Fax (5) 2077**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-2-28**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2180-03-06 06:53:00 Physician Resident Progress Note
Chief Complaint: 44 yo F with pelvic mass s/p supracervical
   hysterectomy and BSO, c/b SBO s/p resection and colostomy now with
   recent SB perforation s/p SB resection and side-side anastomosis with
   open abdomen in [**Hospital Unit Name 44**] for monitoring until OR for closure
   24 Hour Events:
   - Went to OR; still no closure, plan to continue diuresing
   - Autodiuresis approx 5 L negative
   - Still on minimal vent settings
   - Awaiting repeat OR for closure with surgery
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2180-3-5**] 11:14 AM
   Vancomycin - [**2180-3-5**] 07:46 PM
   Piperacillin/Tazobactam (Zosyn) - [**2180-3-6**] 12:00 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2180-3-6**] 02:00 AM
   Midazolam (Versed) - [**2180-3-6**] 02:50 AM
   Fentanyl - [**2180-3-6**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-3-6**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 82 (71 - 98) bpm
   BP: 137/83(94) {115/70(83) - 150/90(101)} mmHg
   RR: 14 (11 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 126 kg (admission): 127 kg
   Height: 61 Inch
    CVP: 8 (3 - 9)mmHg
   Total In:
                                                                  3,841 mL
                                                                    830 mL
   PO:
   TF:
   IVF:
                                                                  1,641 mL
                                                                    406 mL
   Blood products:
                                                                  1,050 mL
                                                                     70 mL
   Total out:
                                                                  8,700 mL
                                                                  1,900 mL
   Urine:
                                                                  8,500 mL
                                                                  1,800 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
                                                                    150 mL
                                                                    100 mL
   Balance:
                                                                 -4,859 mL
                                                                 -1,067 mL
   Respiratory support
   Ventilator mode: CMV
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 130
   PIP: 22 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.41/48/183/31/5
   Ve: 9.2 L/min
   PaO2 / FiO2: 457
   Physical Examination
   General Appearance: Well nourished, Intubated and sedated
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), Coarse
   Abdominal: Open/dressing in place
   Skin:  Not assessed
   Labs / Radiology
   229 K/uL
   103 mg/dL
   0.4 mg/dL
   25
   4.3
   11 mg/dL
   110 mEq/L
   141 mEq/L
   28.3
   6.1 K/uL
        [image002.jpg]
   ALT/AST: 43/96
   ALP: 77
   Tbili: 2.9
   Alb: 2.8
   LDH 222
                             [**2180-3-3**]  06:55 PM
                             [**2180-3-3**]  11:46 PM
                             [**2180-3-4**]  04:20 AM
                             [**2180-3-4**]  06:00 AM
                             [**2180-3-4**]  03:28 PM
                             [**2180-3-4**]  07:54 PM
                             [**2180-3-5**]  03:54 AM
                             [**2180-3-5**]  03:06 PM
                             [**2180-3-5**]  05:00 PM
                             [**2180-3-5**]  11:09 PM
   WBC
   5.5
   5.6
   Hct
   28.1
   30.0
   28.1
   27.2
   26.6
   Plt
   269
   247
   Cr
   0.3
   0.3
   0.4
   0.4
   0.4
   TCO2
   36
   31
   Glucose
   107
   116
   105
   107
   109
   109
   Other labs: PT / PTT / INR:14.9/41.5/1.3, ALT / AST:38/76, Alk Phos / T
   Bili:71/3.0, Amylase / Lipase:26/121, Differential-Neuts:87.0 %,
   Band:1.0 %, Lymph:7.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:200 mg/dL,
   Lactic Acid:2.3 mmol/L, Albumin:2.7 g/dL, LDH:200 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Imaging: CXR today: pending
   Microbiology: [**3-2**] peritoneal fluid cx: [**Female First Name (un) **]
   Assessment and Plan
   44 yo F with pelvic mass s/p supracervical hysterectomy and BSO, c/b
   SBO s/p resection and colostomy now with recent SB perforation s/p SB
   resection and side-side anastomosis with open abdomen in [**Hospital Unit Name 44**] for
   monitoring until OR for closure
      1. Small bowel perforation s/p anastomosis from small bowel
   perforation awaiting return to OR for closure
   - Appreciate OB-gyn and general surgery recs
   - Cont  vanco/pip-tazo/fluc per ID recommendations until [**3-10**].
   - Follow-up peritoneal fluid cultures. Repeated in OR- yeast so far
   - Leukocytosis improving; afebrile
   - Could not close abdomen, trying to bring abdominal wound closer
   together in stepwise fashion.  Con
t with goal diuresis of -2L daily,
   autodiuresed 5L over the day
   - Cont to monitor I/Os, lasix gtt prn to maintain goals, though will
   not likely require today
   2. Respiratory- On minimal vent support settings.
   - On AC with minimal vent settings.  Sedated
   3. Leukocytosis- Stable, improving.  Most likely GI source
   - cont vanco/pip-tazo/fluc per ID as above
   - Fever curve improved
   - Recent cultures NGTD; re-cultured.  yeast.  Gram stain without
   organisms
   - Pan-culture if spikes
   4. Anasarca
   - Likely from IVFs, deconditioning, low albumin
   - I/O goals as above.
   - 25%albumin q8H per surgery recommendations, requested dc today with
   trophic TF to hold prior to surgery
   - [**Hospital1 **] lytes given significant autodiuresis
   5. [**Name (NI) 367**]
   Unclear etiology for patient's [**Name (NI) **]. Had been trending down,
   slightly up today.  Patient is status post liver biopsy on [**2180-3-5**].
   Differential includes most likely elevated LFTs secondary to sepsis.
   - Continue to trend. Stable.
   - Liver biopsy done in OR yesterday - will f/u results
   - Hep A, B, C negative.  HepBsAB +
   - Alpha 1 antitrypsin- 233 (slightly elevated)- difficult to interpret
   in this setting.  Ceruloplasmin normal.
   6. DVT
   Patient was previously maintained on heparin gtt but had IVC filter
   placed in the setting of emergent OR.
   - IVC filter in place
   - Hold off on heparin in the setting of likely return to the OR and
   persistently open abdomen
   7. Altered Mental Status
   Patient reportedly had altered mental status earlier this admission,
   thought possibly secondary to hepatic encephalopathy. Reportedly much
   improved prior to return to OR, now sedated and unable to assess.
   - Will re-evaluate once patient is s/p return to the OR after closure
   and able to be extubated
   8. Hypertension- previously HTN, but now normotensive
   - Con
t to hold HTN medications and monitor VS
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2180-3-5**] 08:53 PM 52.[**Telephone/Fax (5) 2077**] mL/hour, trophic
   TF
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-2-28**] 10:00 PM
   Prophylaxis:
   DVT: Pneumoboots/IVC filter
   Stress ulcer: famotidine
   VAP:  mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU, awaiting abdominal wound closure

2180-03-06 10:48:00 Physician Attending Progress Note
Chief Complaint: ICU support with anasarca, bowel edema requiring
   delayed closure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 OR SENT - At [**2180-3-5**] 08:08 AM
 OR RECEIVED - At [**2180-3-5**] 10:20 AM
   attempt at closure unsuccessful; mesh dsg applied. Clamps/sterile towel
   in place; dressing applied to suction on wall by OR staff
   Liver biopsy done in OR yesterday.
   Autodiuresing. I/O 3.4/8.7L (off lasix since > 24 hrs)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2180-3-6**] 07:32 AM
   Vancomycin - [**2180-3-6**] 07:53 AM
   Fluconazole - [**2180-3-6**] 09:27 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 250 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2180-3-6**] 02:00 AM
   Fentanyl - [**2180-3-6**] 08:54 AM
   Midazolam (Versed) - [**2180-3-6**] 08:54 AM
   Heparin Sodium (Prophylaxis) - [**2180-3-6**] 09:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-3-6**] 10:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 72 (71 - 92) bpm
   BP: 133/79(93) {115/64(77) - 150/90(101)} mmHg
   RR: 12 (11 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.5 kg (admission): 127 kg
   Height: 61 Inch
   CVP: 8 (3 - 9)mmHg
   Total In:
                                                                  3,841 mL
                                                                  1,696 mL
   PO:
   TF:
                                                                      3 mL
   IVF:
                                                                  1,641 mL
                                                                  1,040 mL
   Blood products:
                                                                  1,050 mL
                                                                    100 mL
   Total out:
                                                                  8,700 mL
                                                                  3,130 mL
   Urine:
                                                                  8,500 mL
                                                                  2,940 mL
   NG:
                                                                     50 mL
                                                                     90 mL
   Stool:
   Drains:
                                                                    150 mL
                                                                    100 mL
   Balance:
                                                                 -4,859 mL
                                                                 -1,434 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   PS : 0 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 130
   PIP: 25 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.41/48/183/25/5
   Ve: 6.4 L/min
   PaO2 / FiO2: 457
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Distended, open abd with surgical dressing/mesh, much
   less distended
   Extremities: Right: 2+, Left: 2+, signifant improvement in anasarca
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   229 K/uL
   103 mg/dL
   0.4 mg/dL
   25 mEq/L
   4.3 mEq/L
   11 mg/dL
   110 mEq/L
   141 mEq/L
   28.3 %
   6.1 K/uL
        [image002.jpg]
                             [**2180-3-3**]  11:46 PM
                             [**2180-3-4**]  04:20 AM
                             [**2180-3-4**]  06:00 AM
                             [**2180-3-4**]  03:28 PM
                             [**2180-3-4**]  07:54 PM
                             [**2180-3-5**]  03:54 AM
                             [**2180-3-5**]  03:06 PM
                             [**2180-3-5**]  05:00 PM
                             [**2180-3-5**]  11:09 PM
                             [**2180-3-6**]  05:57 AM
   WBC
   5.5
   5.6
   6.1
   Hct
   30.0
   28.1
   27.2
   26.6
   28.3
   Plt
   [**Telephone/Fax (3) 2142**]
   Cr
   0.3
   0.3
   0.4
   0.4
   0.4
   0.4
   TCO2
   36
   31
   Glucose
   107
   116
   105
   107
   109
   109
   103
   Other labs: PT / PTT / INR:14.2/35.7/1.2, ALT / AST:43/96, Alk Phos / T
   Bili:77/2.9, Amylase / Lipase:26/121, Differential-Neuts:87.0 %,
   Band:1.0 %, Lymph:7.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:200 mg/dL,
   Lactic Acid:2.3 mmol/L, Albumin:2.8 g/dL, LDH:222 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Microbiology: None new.
   Assessment and Plan
   44 yo F with pelvic mass (GIST tumor) s/p supracervical hysterectomy
   and BSO, c/b SBO s/p resection and colostomy now with recent SB
   perforation s/p SB resection and side-side anastomosis with open
   abdomen in [**Hospital Unit Name 44**] for monitoring until closure. [**3-5**] went to the OR and
   was unable to close.
   Pt remains critically ill with several active issues
   1.   Anasarca, with bowel edema.  Underwent aggressive diuresis to try
   to achieve neg fluid balance
 contraction alkalosis     ensued,
   switched to acetazolamide. Now autodiuresing rapidly. Frequent
   electrolyte checks. D/C
d albumin. Significant improvement in abd
   distension.
   2.  Resp Failure: volume overload, sedation with open abdomen.
         Heavily sedated on fent 250/versed 3
 continue AC for now
   cannot wean until abdomen is closed
   3. Small bowel perforation s/p anastomosis from small bowel
 now plan
   for slow closure at bedside
surgery following closely
   4. Leukocytosis- improving.  Most likely GI source
   - cont vanco/pip-tazo/fluc per ID (plan is until [**3-10**] for 10d course.)
   - fever curve improved
   - recent cultures NGTD; re-cultured.  NGTD.  Gram stain without
   organisms
   5. DVT
   Patient was previously maintained on heparin gtt but had IVC filter
   placed in the setting of emergent OR.
   - IVC filter in place
   - hold off on heparin in the setting of likely return to the OR and
   persistently open abdomen
   6. Trophic TF started.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2180-3-5**] 08:53 PM 52.[**Telephone/Fax (5) 2077**] mL/hour
   Replete with Fiber (Full) - [**2180-3-6**] 10:18 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-2-28**] 10:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2180-03-07 06:59:00 Physician Resident Progress Note
Chief Complaint: 44 yo F with pelvic mass s/p supracervical
   hysterectomy and BSO, c/b SBO s/p resection and colostomy now with
   recent SB perforation s/p SB resection and side-side anastomosis with
   open abdomen in [**Hospital Unit Name 44**] for monitoring until OR for closure
   24 Hour Events:
   -started on trophic tube feeds, high residuals, will d/c for now.
   -[**Doctor First Name **] recs, plan to tighten clamps tomorrow either at bedside or in OR
   until primary closure possible later this week.
   -Pt arousable during re-positioning on max doses fentanyl/versed, may
   require general anaesthesia prior to instrumentation.
   -Diuresing nicely, 2.6L neg [**3-6**], ~300cc UOP per hour.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2180-3-6**] 09:27 AM
   Vancomycin - [**2180-3-6**] 08:53 PM
   Piperacillin/Tazobactam (Zosyn) - [**2180-3-7**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 300 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2180-3-6**] 06:04 PM
   Famotidine (Pepcid) - [**2180-3-7**] 02:00 AM
   Heparin Sodium (Prophylaxis) - [**2180-3-7**] 02:00 AM
   Fentanyl - [**2180-3-7**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-3-7**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 75 (65 - 86) bpm
   BP: 140/96(107) {116/64(77) - 154/96(110)} mmHg
   RR: 15 (11 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.5 kg (admission): 127 kg
   Height: 61 Inch
    CVP: 6 (5 - 9)mmHg
   Total In:
                                                                  3,550 mL
                                                                    715 mL
   PO:
   TF:
                                                                     59 mL
   IVF:
                                                                  2,036 mL
                                                                    373 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  6,230 mL
                                                                  1,360 mL
   Urine:
                                                                  5,880 mL
                                                                  1,360 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
                                                                    100 mL
   Balance:
                                                                 -2,680 mL
                                                                   -645 mL
   Respiratory support
   Ventilator mode: CMV
   Vt (Set): 550 (550 - 550) mL
   PS : 0 cmH2O
   RR (Set): 12
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 25 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 7.9 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Open wound, clamps in place
   Extremities: Right: 1+, Left: 1+
   Neurologic: Intubated and sedated
   Labs / Radiology
   229 K/uL
   8.9 g/dL
   97 mg/dL
   0.4 mg/dL
   24 mEq/L
   4.0 mEq/L
   10 mg/dL
   111 mEq/L
   141 mEq/L
   28.3 %
   6.1 K/uL
        [image002.jpg]
                             [**2180-3-4**]  06:00 AM
                             [**2180-3-4**]  03:28 PM
                             [**2180-3-4**]  07:54 PM
                             [**2180-3-5**]  03:54 AM
                             [**2180-3-5**]  03:06 PM
                             [**2180-3-5**]  05:00 PM
                             [**2180-3-5**]  11:09 PM
                             [**2180-3-6**]  05:57 AM
                             [**2180-3-6**]  05:17 PM
                             [**2180-3-7**]  04:28 AM
   WBC
   5.6
   6.1
   Hct
   27.2
   26.6
   28.3
   Plt
   247
   229
   Cr
   0.3
   0.4
   0.4
   0.4
   0.4
   0.3
   0.4
   TCO2
   36
   31
   Glucose
   116
   105
   107
   109
   109
   103
   91
   97
   Other labs: PT / PTT / INR:14.2/35.7/1.2, ALT / AST:43/96, Alk Phos / T
   Bili:77/2.9, Amylase / Lipase:26/121, Differential-Neuts:87.0 %,
   Band:1.0 %, Lymph:7.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:200 mg/dL,
   Lactic Acid:2.3 mmol/L, Albumin:2.8 g/dL, LDH:222 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Imaging: AP CHEST 5:51 A.M. [**3-6**]
    HISTORY: GIST tumor, peritonitis and open abdomen.
   IMPRESSION: AP chest compared to [**2-20**] through [**3-2**]:
   Pulmonary vascular congestion and central pulmonary artery enlargement
   that had been relatively unchanged since [**2-20**]. Heart size is top
   normal.
   Findings raise possibility of idiopathic and other causes of pulmonary
   hypertension, including right to left shunting. Pleural effusion if any
   is
   small. Atelectasis at the base of the left lung has been stable for at
   least
   four days. Upper lungs grossly clear.
   ET tube, left subclavian line and nasogastric tube are in standard
   placements. No pneumothorax.
   Microbiology: No new micro
   Assessment and Plan
   44 yo F with pelvic mass s/p supracervical hysterectomy and BSO, c/b
   SBO s/p resection and colostomy now with recent SB perforation s/p SB
   resection and side-side anastomosis with open abdomen in [**Hospital Unit Name 44**] for
   monitoring until OR for closure
   # Small bowel perforation s/p anastomosis from small bowel perforation
   awaiting return to OR for closure
   - Appreciate OB-gyn and general surgery recs
   - Cont  vanco/pip-tazo/fluc per ID recommendations until [**3-10**].
   - Follow-up peritoneal fluid cultures. Repeated in OR growing [**Female First Name (un) 188**]
   albicans (low numbers)
   - Leukocytosis improved; afebrile
   - Could not close abdomen, trying to bring abdominal wound closer
   together in stepwise fashion.  Per [**Doctor First Name 458**] today, will try closure later
   this afternoon. They are requesting sedation and paralysis for the
   procedure.
   - Con
t with goal diuresis of -2L daily. Will monitor I/Os, patient has
   been autodiuresing, lasix gtt prn to maintain goals, though will not
   likely require today
   # Respiratory - On minimal vent support settings.
   - On AC with minimal vent settings.  Sedated
   # Leukocytosis - Stable, improving.  Most likely GI source
   - Cont vanco/pip-tazo/fluc per ID as above
   - Fever curve continuing to improve
   - All bcx NG; peritoneal fluid growing yeast as above
   - Pan-culture if spikes
   # Anasarca
   - Likely from IVFs, deconditioning, low albumin
   - I/O goals as above.
   - Albumin25% q8H per surgery recommendations was dc'd yesterday.
   Trophic TF started yesterday with high residuals so was discontinued
   for now
   - Per [**Doctor First Name 458**] this am, requesting reglan so that TF can be restarted later
   today, will give re-trial later this afternoon
   - [**Hospital1 **] lytes given significant autodiuresis
   # [**Name (NI) 367**]
   Unclear etiology for patient's [**Name (NI) **]. Had been trending down,
   added on for this morning.  Patient is status post liver biopsy on
   [**2180-3-5**].  Differential includes most likely elevated LFTs secondary to
   sepsis.
   - Continue to trend. Stable.
   - F/u results of liver biopsy
   - Hep A, B, C negative.  HepBsAB +
   - Alpha 1 antitrypsin - 233 (slightly elevated)- difficult to interpret
   in this setting.  Ceruloplasmin normal.
   # DVT
   Patient was previously maintained on heparin gtt but had IVC filter
   placed in the setting of emergent OR.
   - IVC filter in place
   - Hold off on heparin in the setting of likely return to the OR and
   persistently open abdomen
   # Altered Mental Status
   Patient reportedly had altered mental status earlier this admission,
   thought possibly secondary to hepatic encephalopathy. Reportedly much
   improved prior to return to OR, now sedated and unable to assess.
   - Will re-evaluate once patient is s/p return to the OR after closure
   and able to be extubated
   # Hypertension - Stable.  Previously hypertensive, but now normotensive
   - Con
t to hold HTN medications and monitor VS
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2180-3-6**] 06:00 PM 52.[**Telephone/Fax (5) 2077**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-2-28**] 10:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin, IVC filter
   Stress ulcer: H2 blocker (Famotidine)
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending closure of abdomen

2180-03-07 10:57:00 Physician Attending Progress Note
Chief Complaint: Mechanical ventilation and sedation with open abdomen
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continues to autodiures.
   Did not tolerate trophic tube feeds.
   Requiring high doses of fent/versed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2180-3-7**] 07:25 AM
   Vancomycin - [**2180-3-7**] 08:19 AM
   Fluconazole - [**2180-3-7**] 09:37 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 400 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2180-3-7**] 02:00 AM
   Fentanyl - [**2180-3-7**] 08:20 AM
   Heparin Sodium (Prophylaxis) - [**2180-3-7**] 09:38 AM
   Midazolam (Versed) - [**2180-3-7**] 10:21 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Parenteral nutrition
   Flowsheet Data as of  [**2180-3-7**] 10:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (98.9
   HR: 77 (65 - 95) bpm
   BP: 123/77(87) {118/67(79) - 154/96(110)} mmHg
   RR: 15 (11 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.5 kg (admission): 127 kg
   Height: 61 Inch
   CVP: 7 (5 - 9)mmHg
   Total In:
                                                                  3,564 mL
                                                                  1,694 mL
   PO:
   TF:
                                                                     59 mL
   IVF:
                                                                  2,050 mL
                                                                  1,130 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  6,230 mL
                                                                  2,335 mL
   Urine:
                                                                  5,880 mL
                                                                  2,235 mL
   NG:
                                                                    250 mL
                                                                    100 mL
   Stool:
   Drains:
                                                                    100 mL
   Balance:
                                                                 -2,666 mL
                                                                   -641 mL
   Respiratory support
   Ventilator mode: CMV
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 25 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 7.9 L/min
   Physical Examination
   Not significantly changed except continued improvement in anasarca and
   bowel distension. Arousable to voice on high doses of fent/versed.
   Lungs CTA. RRR no audible murmurs. No rashes, clubbing, cyanosis.
   Hypoactive bowel sounds.
   Labs / Radiology
   8.9 g/dL
   234 K/uL
   97 mg/dL
   0.4 mg/dL
   24 mEq/L
   4.0 mEq/L
   10 mg/dL
   111 mEq/L
   141 mEq/L
   28.0 %
   6.9 K/uL
        [image002.jpg]
                             [**2180-3-4**]  06:00 AM
                             [**2180-3-4**]  03:28 PM
                             [**2180-3-4**]  07:54 PM
                             [**2180-3-5**]  03:54 AM
                             [**2180-3-5**]  03:06 PM
                             [**2180-3-5**]  05:00 PM
                             [**2180-3-5**]  11:09 PM
                             [**2180-3-6**]  05:57 AM
                             [**2180-3-6**]  05:17 PM
                             [**2180-3-7**]  04:28 AM
   WBC
   5.6
   6.1
   6.9
   Hct
   27.2
   26.6
   28.3
   28.0
   Plt
   247
   229
   234
   Cr
   0.3
   0.4
   0.4
   0.4
   0.4
   0.3
   0.4
   TCO2
   36
   31
   Glucose
   116
   105
   107
   109
   109
   103
   91
   97
   Other labs: PT / PTT / INR:14.5/34.0/1.3, ALT / AST:37/76, Alk Phos / T
   Bili:87/2.9, Amylase / Lipase:26/121, Differential-Neuts:87.0 %,
   Band:1.0 %, Lymph:7.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:200 mg/dL,
   Lactic Acid:2.3 mmol/L, Albumin:2.8 g/dL, LDH:225 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   44 yo F with pelvic mass (GIST tumor) s/p supracervical hysterectomy
   and BSO, c/b SBO s/p resection and colostomy now with recent SB
   perforation s/p SB resection and side-side anastomosis with open
   abdomen in [**Hospital Unit Name 44**] for monitoring until closure. [**3-5**] went to the OR and
   was unable to close. Autodiuresis since then with marked improvement in
   anasarca and bowel edema.
    1.   Anasarca, with bowel edema. Plan for Dr [**Last Name (STitle) 2093**] to pull wound
   closer this afternoon with transient propofol.
   2.  Resp Failure: volume overload, sedation with open abdomen.
         Minimal vent settings. No sig secretions. Heavily sedated on fent
   /versed
    3. Small bowel perforation s/p anastomosis from small bowel
 now plan
   for slow closure at bedside
surgery following closely
   4. Leukocytosis- resolved.  Most likely GI source
   - cont vanco/pip-tazo/fluc per ID (plan is until [**3-10**] for 10d course.)
   - afebrile
   5. DVT
   Patient was previously maintained on heparin gtt but had IVC filter
   placed in the setting of emergent OR.
   - IVC filter in place
   - hold off on heparin in the setting of likely return to the OR and
   persistently open abdomen
   6. Trophic TF started and failed. Will try again. TPN in meantime.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2180-3-6**] 06:00 PM 52.[**Telephone/Fax (5) 2077**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-2-28**] 10:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2180-03-08 07:39:00 Physician Resident Progress Note
Chief Complaint: 44 yo F with pelvic mass s/p supracervical
   hysterectomy and BSO, c/b SBO s/p resection and colostomy now with
   recent SB perforation s/p SB resection and side-side anastomosis with
   open abdomen in [**Hospital Unit Name 44**] for monitoring until OR for closure
   24 Hour Events:
   - [**Doctor First Name **] at bedside attempted partial closure which patient tolerated
   with one dose paralytic and propofol.
   - Plan for OR closure likely on Thursday
   - Still autodiuresing, pm lytes were completely normal
   - IV Reglan started per [**Doctor First Name 458**], re-attempted TF at 10cc/hr
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2180-3-7**] 09:37 AM
   Vancomycin - [**2180-3-7**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2180-3-8**] 12:00 AM
   Infusions:
   Fentanyl - 500 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2180-3-7**] 10:21 AM
   Fentanyl - [**2180-3-7**] 12:00 PM
   Famotidine (Pepcid) - [**2180-3-8**] 02:00 AM
   Heparin Sodium (Prophylaxis) - [**2180-3-8**] 02:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-3-8**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 91 (77 - 95) bpm
   BP: 119/61(74) {112/58(70) - 148/88(100)} mmHg
   RR: 13 (12 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.5 kg (admission): 127 kg
   Height: 61 Inch
    CVP: 5 (1 - 7)mmHg
   Total In:
                                                                  3,840 mL
                                                                  1,209 mL
   PO:
   TF:
                                                                    216 mL
                                                                    143 mL
   IVF:
                                                                  2,373 mL
                                                                    669 mL
   Blood products:
   Total out:
                                                                  5,830 mL
                                                                    835 mL
   Urine:
                                                                  5,370 mL
                                                                    735 mL
   NG:
                                                                    360 mL
   Stool:
   Drains:
                                                                    100 mL
                                                                    100 mL
   Balance:
                                                                 -1,990 mL
                                                                    374 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 25
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 7.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   244 K/uL
   8.2 g/dL
   103 mg/dL
   0.3 mg/dL
   24 mEq/L
   4.1 mEq/L
   11 mg/dL
   109 mEq/L
   139 mEq/L
   26.1 %
   9.0 K/uL
        [image002.jpg]
                             [**2180-3-4**]  07:54 PM
                             [**2180-3-5**]  03:54 AM
                             [**2180-3-5**]  03:06 PM
                             [**2180-3-5**]  05:00 PM
                             [**2180-3-5**]  11:09 PM
                             [**2180-3-6**]  05:57 AM
                             [**2180-3-6**]  05:17 PM
                             [**2180-3-7**]  04:28 AM
                             [**2180-3-7**]  04:45 PM
                             [**2180-3-8**]  04:50 AM
   WBC
   5.6
   6.1
   6.9
   9.0
   Hct
   26.6
   28.3
   28.0
   26.1
   Plt
   247
   229
   234
   244
   Cr
   0.4
   0.4
   0.4
   0.4
   0.3
   0.4
   0.4
   0.3
   TCO2
   36
   31
   Glucose
   107
   109
   109
   103
   91
   97
   113
   103
   Other labs: PT / PTT / INR:14.5/34.0/1.3, ALT / AST:37/76, Alk Phos / T
   Bili:87/2.9, Amylase / Lipase:26/121, Differential-Neuts:87.0 %,
   Band:1.0 %, Lymph:7.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:200 mg/dL,
   Lactic Acid:2.3 mmol/L, Albumin:2.8 g/dL, LDH:225 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   44 yo F with pelvic mass s/p supracervical hysterectomy and BSO, c/b
   SBO s/p resection and colostomy now with recent SB perforation s/p SB
   resection and side-side anastomosis with open abdomen in [**Hospital Unit Name 44**] for
   monitoring until OR for closure
   # Small bowel perforation s/p anastomosis from small bowel perforation
   awaiting return to OR for closure
   - Appreciate OB-gyn and general surgery recs
   - [**Doctor First Name **] at bedside today for partial closure, patient required propofol
   and 1 dose vec for paralysis which she tolerated, plan for primary
   closure likely Thursday
   - Cont  vanco/pip-tazo/fluc per ID recommendations until [**3-10**].
   - Follow-up peritoneal fluid cultures. Repeated in OR growing [**Female First Name (un) 188**]
   albicans (low numbers)
   - Leukocytosis improved; afebrile
   - Con
t with goal diuresis of -2L daily. Will monitor I/Os, patient has
   been autodiuresing, lasix gtt prn to maintain goals, though will not
   likely require
   - PM lytes given significant autodiuresis
   # Respiratory - On minimal vent support settings.
   - On AC with minimal vent settings.  Sedated
   # Leukocytosis - Stable, improving.  Most likely GI source
   - Cont vanco/pip-tazo/fluc per ID as above
   - Fever curve continuing to improve
   - All bcx NG; peritoneal fluid growing yeast as above
   - Pan-culture if spikes
   # Anasarca
 Significant improvement
   - Likely from IVFs, deconditioning, low albumin
   - I/O goals as above.
   - Albumin25% q8H per surgery recommendations was dc'd yesterday.
   Trophic TF started yesterday with high residuals so was discontinued
   for now
   - Per [**Doctor First Name 458**] this am, started on reglan so that TF can be restarted later
   today, will give re-trial later this afternoon
   - [**Hospital1 **] lytes as above
   # Transaminitis
   - Downtrending. Unclear etiology for patient's transaminitis.  Patient
   is status post liver biopsy on [**2180-3-5**].  Differential includes most
   likely elevated LFTs secondary to sepsis.
   - No need to continue to follow unless clinically indicated
   - F/u results of liver biopsy
   - Hep A, B, C negative.  HepBsAB +
   - Alpha 1 antitrypsin - 233 (slightly elevated)- difficult to interpret
   in this setting.  Ceruloplasmin normal.
   # DVT
   Patient was previously maintained on heparin gtt but had IVC filter
   placed in the setting of emergent OR.
   - IVC filter in place
   -  SC heparin
   # Altered Mental Status
   Unable to assess at this point.  Patient reportedly had altered mental
   status earlier this admission, thought possibly secondary to hepatic
   encephalopathy.
   - Will re-evaluate once patient is s/p return to the OR after closure
   and able to be extubated
   # Hypertension - Stable.  Previously hypertensive, but now normotensive
   - Con
t to hold HTN medications and monitor VS
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2180-3-7**] 04:53 PM 52.[**Telephone/Fax (5) 2077**] mL/hour
   Replete with Fiber (Full) - [**2180-3-8**] 04:44 AM 38.[**Telephone/Fax (5) 2208**]
   mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-2-28**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2180-03-09 07:07:00 Physician Resident Progress Note
Chief Complaint: 44 yo F with pelvic mass s/p supracervical
   hysterectomy and BSO, c/b SBO s/p resection and colostomy now with
   recent SB perforation s/p SB resection and side-side anastomosis with
   open abdomen in [**Hospital Unit Name 44**] for monitoring until OR for closure
   24 Hour Events:
 URINE CULTURE - At [**2180-3-9**] 04:19 AM
   -Did not tolerate TF, had residuals.  Metaclopramide and TF stopped, pt
   maintained on TPN
   -Started on lasix gtt last night as was not negative 2L
   -Plan for OR today
   -temp 100.4, urine and blood cultures sent.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2180-3-8**] 10:00 AM
   Vancomycin - [**2180-3-8**] 07:39 PM
   Piperacillin/Tazobactam (Zosyn) - [**2180-3-9**] 12:00 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 400 mcg/hour
   Other ICU medications:
   Fentanyl - [**2180-3-8**] 10:00 PM
   Famotidine (Pepcid) - [**2180-3-9**] 02:09 AM
   Heparin Sodium (Prophylaxis) - [**2180-3-9**] 02:09 AM
   Other medications:
   Artificial tears prn
   Chlorhexidine
   ISS
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: intubated, sedated
   Flowsheet Data as of  [**2180-3-9**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.6
C (99.7
   HR: 94 (80 - 95) bpm
   BP: 116/66(79) {98/44(55) - 156/94(108)} mmHg
   RR: 13 (11 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.5 kg (admission): 127 kg
   Height: 61 Inch
    CVP: 6 (1 - 344)mmHg
   Total In:
                                                                  4,149 mL
                                                                    838 mL
   PO:
   TF:
                                                                    266 mL
   IVF:
                                                                  2,578 mL
                                                                    468 mL
   Blood products:
   Total out:
                                                                  5,240 mL
                                                                  2,220 mL
   Urine:
                                                                  5,115 mL
                                                                  2,220 mL
   NG:
   Stool:
   Drains:
                                                                    125 mL
   Balance:
                                                                 -1,091 mL
                                                                 -1,382 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 28 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 6.8 L/min
   Physical Examination
   General Appearance: No acute distress, sedated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube,
   some ulceration of lips
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Open wound, clamps in place, no bowel sounds.
   Extremities: Right: 1+, Left: 1+ edema, much improved from prior
   Neurologic: Intubated and sedated
   Labs / Radiology
   233 K/uL
   8.1 g/dL
   121 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.2 mEq/L
   11 mg/dL
   109 mEq/L
   141 mEq/L
   24.0 %
   9.1 K/uL
        [image002.jpg]
                             [**2180-3-5**]  03:06 PM
                             [**2180-3-5**]  05:00 PM
                             [**2180-3-5**]  11:09 PM
                             [**2180-3-6**]  05:57 AM
                             [**2180-3-6**]  05:17 PM
                             [**2180-3-7**]  04:28 AM
                             [**2180-3-7**]  04:45 PM
                             [**2180-3-8**]  04:50 AM
                             [**2180-3-8**]  05:15 PM
                             [**2180-3-9**]  04:07 AM
   WBC
   6.1
   6.9
   9.0
   9.1
   Hct
   28.3
   28.0
   26.1
   25.5
   24.0
   Plt
   [**Telephone/Fax (3) 2256**]33
   Cr
   0.4
   0.4
   0.4
   0.3
   0.4
   0.4
   0.3
   0.3
   0.5
   TCO2
   31
   Glucose
   109
   109
   103
   91
   97
   113
   103
   157
   121
   Other labs: PT / PTT / INR:13.6/38.8/1.2, ALT / AST:37/76, Alk Phos / T
   Bili:87/2.9, Amylase / Lipase:26/121, Differential-Neuts:87.0 %,
   Band:1.0 %, Lymph:7.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:200 mg/dL,
   Lactic Acid:2.3 mmol/L, Albumin:2.3 g/dL, LDH:225 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.2 mg/dL
   Micro: [**Female First Name (un) **] albicans from peritoneal fluid, otherwise no growth from
   any culture with urine, blood and sputum cultures pending from today.
   Assessment and Plan
   44 yo F with pelvic mass s/p supracervical hysterectomy and BSO, c/b
   SBO s/p resection and colostomy now with recent SB perforation s/p SB
   resection and side-side anastomosis with open abdomen in [**Hospital Unit Name 44**] for
   monitoring until OR for closure
   # Small bowel perforation s/p anastomosis from small bowel perforation,
   have been unable to close abdomen due to significant edema.  Currently
   pt with open abdomen, closing with mesh in stages with plan to return
   to OR imminently for complete closure after adequate diuresis.
   - Appreciate OB-gyn and general surgery recs- likely to OR this
   afternoon
   - Cont  vanco/pip-tazo/fluc per ID recommendations until [**3-10**].
   - peritoneal fluid with c.albicans
   - Leukocytosis improved; slight fever today, have recultured will
   follow up micro results.  Pt intubated >10 days, now with increased
   sputum production, concern for PNA, is broadly covered, however missing
   atypical [**Last Name (LF) 2260**], [**First Name3 (LF) 178**] continue to monitor and follow up sputum
   results.
   - Con
t with goal diuresis of -2L daily, pt restarted on lasix gtt last
   night, >1.5L negative so far today.
   - PM lytes given significant autodiuresis
   # Respiratory - On minimal vent support settings.
   - On AC with minimal vent settings.  Sedated
   # Leukocytosis - Stable, improving.  Most likely GI source
   - Cont vanco/pip-tazo/fluc per ID as above
   - All bcx NG; peritoneal fluid growing yeast as above
   - Pan-culture if spikes
   -follow up cultures as above.
   # Anasarca
 Significant improvement
   - Likely from IVFs, deconditioning, low albumin
   - I/O goals as above.
   - not tolerating TFs with significant residuals despite metoclopramide.
   Hold off on TFs for now.  Cont TPN
   - [**Hospital1 **] lytes as above
   # Transaminitis
   - Downtrending. Unclear etiology for patient's transaminitis.  Patient
   is status post liver biopsy on [**2180-3-5**].
   - No need to continue to follow unless clinically indicated
   - F/u results of liver biopsy
   - Hep A, B, C negative.  HepBsAB +
   - Alpha 1 antitrypsin - 233 (slightly elevated)- difficult to interpret
   in this setting.  Ceruloplasmin normal.
   # DVT
   Patient was previously maintained on heparin gtt but had IVC filter
   placed in the setting of emergent OR.
   - IVC filter in place
   -  SC heparin
   # Altered Mental Status
   Unable to assess at this point.  Patient reportedly had altered mental
   status earlier this admission, thought possibly secondary to hepatic
   encephalopathy.
   - Will re-evaluate once patient is s/p return to the OR after closure
   and able to be extubated
   # Hypertension - Stable.  Previously hypertensive, but now normotensive
   - Con
t to hold HTN medications and monitor VS
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2180-3-7**] 04:53 PM 52.[**Telephone/Fax (5) 2077**] mL/hour
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2180-2-28**] 10:00 PM
   Prophylaxis:
   DVT: hep sc; pneumoboots
   Stress ulcer: famotidine
   VAP:  mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU care- likely OR today for primary closure, then will
   attempt to extubate.

2180-03-10 07:11:00 Physician Resident Progress Note
Chief Complaint: 44 yo F with pelvic mass s/p supracervical
   hysterectomy and BSO, c/b SBO s/p resection and colostomy now with
   recent SB perforation s/p SB resection and side-side anastomosis with
   open abdomen in [**Hospital Unit Name 44**] for monitoring
   24 Hour Events:
 BLOOD CULTURED - At [**2180-3-9**] 09:55 AM
 SPUTUM CULTURE - At [**2180-3-9**] 12:39 PM
   -At goal for I/O, >1L negative today
   -Went to OR, still unable to close abd, no plans for return to OR, abd
   opening bridged with alloderm.  Surgery recs checking PM labs,( lytes
   WNL, Hct and WBC increased) weaning sedation and vent as tolerated.
   Got 2 units blood and 1500 cc IVF in OR.
   -Cultures pending
   -Got KUB intraoperatively, read pending
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2180-3-9**] 09:55 AM
   Vancomycin - [**2180-3-9**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2180-3-10**] 12:15 AM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 400 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2180-3-9**] 09:55 AM
   Famotidine (Pepcid) - [**2180-3-10**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-3-10**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.3
C (99.2
   HR: 109 (85 - 109) bpm
   BP: 143/93(103) {104/59(70) - 155/99(110)} mmHg
   RR: 13 (10 - 16) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 92.5 kg (admission): 127 kg
   Height: 61 Inch
    CVP: 7 (6 - 7)mmHg
   Total In:
                                                                  5,382 mL
                                                                    689 mL
   PO:
   TF:
   IVF:
                                                                  3,347 mL
                                                                    323 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  5,655 mL
                                                                    605 mL
   Urine:
                                                                  4,545 mL
                                                                    605 mL
   NG:
                                                                    110 mL
   Stool:
   Drains:
   Balance:
                                                                   -273 mL
                                                                     84 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 6.5 L/min
   Physical Examination
   General Appearance: No acute distress, sedated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube,
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Open wound, vac in place, +BS today
   Extremities: Right: 1+, Left: 1+ edema, much improved from prior
   Neurologic: Intubated and sedated, blinks eyes with stimulation
   Labs / Radiology
   264 K/uL
   10.1 g/dL
   114 mg/dL
   0.3 mg/dL
   26 mEq/L
   4.3 mEq/L
   9 mg/dL
   108 mEq/L
   139 mEq/L
   30.2 %
   12.8 K/uL
        [image002.jpg]
   ALT 39 AST 70  LDH 297  ALK 116  Tbili 3.1
                             [**2180-3-6**]  05:17 PM
                             [**2180-3-7**]  04:28 AM
                             [**2180-3-7**]  04:45 PM
                             [**2180-3-8**]  04:50 AM
                             [**2180-3-8**]  05:15 PM
                             [**2180-3-9**]  04:07 AM
                             [**2180-3-9**]  05:05 PM
                             [**2180-3-9**]  06:22 PM
                             [**2180-3-9**]  10:32 PM
                             [**2180-3-10**]  05:20 AM
   WBC
   6.9
   9.0
   9.1
   13.6
   12.8
   Hct
   28.0
   26.1
   25.5
   24.0
   22
   32
   30.9
   30.2
   Plt
   [**Telephone/Fax (3) 2270**]35
   264
   Cr
   0.3
   0.4
   0.4
   0.3
   0.3
   0.5
   0.4
   0.3
   Glucose
   91
   97
   113
   103
   157
   121
   131
   115
   131
   114
   Other labs: PT / PTT / INR:14.0/31.7/1.2, ALT / AST:37/76, Alk Phos / T
   Bili:87/2.9, Amylase / Lipase:26/121, Differential-Neuts:87.0 %,
   Band:1.0 %, Lymph:7.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:200 mg/dL,
   Lactic Acid:2.3 mmol/L, Albumin:2.3 g/dL, LDH:225 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR: pending this am
   Microbiology: Sputum cx 4/17/008: <10 PMNs, no microorganisms, cx
   pending
   Bcx and Urine cx [**3-9**]: NGTD
   Assessment and Plan
   44 yo F with pelvic mass s/p supracervical hysterectomy and BSO, c/b
   SBO s/p resection and colostomy now with recent SB perforation s/p SB
   resection and side-side anastomosis with open abdomen in [**Hospital Unit Name 44**] for
   monitoring given open abdomen.
   # Small bowel perforation s/p anastomosis from small bowel perforation,
   had been unable to close abdomen due to significant edema.  Now s/p
   fascial closure in the OR, no further plans for closure.  Abdomen will
   close by secondary intention.
   - Appreciate OB-gyn and general surgery recs- no further OR
   - Vac change q3 days per surgery
   - Will dc vanco/pip-tazo/fluc as patient has completed 10 day course.
   - Peritoneal fluid with c.albicans, no other positive cx data
   - Leukocytosis improved slightly, Tmax 100.4 yesterday morning, no
   fevers overnight. Was pancultured, all no growth to date. Will follow
   micro results.
   - Pt intubated >10 days, initial concern for VAP given increased
   sputum, low grade temperature and increased leukocytosis; however, CXR
   and clinical status not concerning for VAP at this point.
   - Continue to follow diuresis as patient rec'd 1.5L and 2units blood in
   OR yesterday, can consider lasix gtt again if becomes volume
   overloaded.  Goal I/O 500-1L negative today.
   # Respiratory - On minimal vent support settings.
   - On AC with minimal vent settings.  Sedated.
   - Given no further OR, will attempt change to PSV today and wean
   sedation (preferentially weaning versed as patient will likely require
   fentanyl for pain control given persistently open abdominal wound).
   # Leukocytosis - Stable, slight improvement today
   - No clear source of infection, CXR clear, clinically and HD stable.
   - D/C abx as above
   - All bcx NG; peritoneal fluid growing yeast as above, continue to
   follow micro
   - Pan-culture if spikes
   # Anasarca
 Significant improvement
   - Likely from IVFs, deconditioning, low albumin
   - I/O goals as above.
   - Will re-attempt tube feeds today, will hold in the setting of high
   residuals.
   # Transaminitis
   - Was downtrending. Unclear etiology for patient's transaminitis.
   Patient is status post liver biopsy on [**2180-3-5**].
   - Had stopped following as levels were decreasing; however, now with
   some evidence of ?scleral icterus.  LFTs today showing slightly
   increased T. bili and LDH.  Can continue to monitor.
   - F/u results of liver biopsy
   - Hep A, B, C negative.  HepBsAB +
   - Alpha 1 antitrypsin - 233 (slightly elevated)- difficult to interpret
   in this setting.  Ceruloplasmin normal.
   # DVT
   Patient was previously maintained on heparin gtt but had IVC filter
   placed in the setting of emergent OR.
   - IVC filter in place
   - SC heparin
   - Will discuss anticoagulation timeline with surgery today as patient
   has known DVT and will need anticoagulation
   # Altered Mental Status
   Unable to assess at this point.  Patient reportedly had altered mental
   status earlier this admission, thought possibly secondary to hepatic
   encephalopathy.
   - Will re-evaluate once patient is s/p return to the OR after closure
   and able to be extubated
   # Hypertension - Stable.  Previously hypertensive, but now normotensive
   - Con
t to hold HTN medications and monitor VS, can consider adding
   back if needed today.
   # Sedation: Patient has been sedated and intubated for >10 days.  Given
   no further return to OR, will begin wean as above, maintaining fentanyl
   levels to ensure pain control.
   # FEN: On TPN, restarting trophic tube feeds today, bowel regimen
   including colace and senna, replete lytes prn
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2180-3-9**] 02:26 PM 52.[**Telephone/Fax (5) 2077**] mL/hour, starting
   trophic TF
   Glycemic Control:  adequate
   Lines:
   Multi Lumen - [**2180-2-28**] 10:00 PM
   Prophylaxis:
   DVT: IVC filter, sc heparin
   Stress ulcer: Famotidine q12H
   VAP:  Mouth care, HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now, will transition to surgical service when
   ready for call out

2180-03-10 11:44:00 Physician Attending Progress Note
Chief Complaint: resp support for open abdomen with prolonged sedation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2180-3-9**] 09:55 AM
 SPUTUM CULTURE - At [**2180-3-9**] 12:39 PM
   Went to OR, closed fascia but did not close wound.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2180-3-10**] 08:18 AM
   Piperacillin/Tazobactam (Zosyn) - [**2180-3-10**] 08:18 AM
   Fluconazole - [**2180-3-10**] 09:58 AM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 400 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2180-3-10**] 02:30 AM
   Heparin Sodium (Prophylaxis) - [**2180-3-10**] 10:01 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-3-10**] 11:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 106 (85 - 112) bpm
   BP: 133/87(97) {108/60(73) - 155/99(110)} mmHg
   RR: 14 (10 - 16) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.5 kg (admission): 127 kg
   Height: 61 Inch
   CVP: 10 (6 - 10)mmHg
   Total In:
                                                                  5,382 mL
                                                                  1,656 mL
   PO:
   TF:
                                                                     20 mL
   IVF:
                                                                  3,347 mL
                                                                  1,037 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  5,655 mL
                                                                    895 mL
   Urine:
                                                                  4,545 mL
                                                                    895 mL
   NG:
                                                                    110 mL
   Stool:
   Drains:
   Balance:
                                                                   -273 mL
                                                                    761 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 29 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 8.7 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: Sclera edema, mild icterus
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), artifact sounds from vent
   tubing
   Abdominal: Soft, Bowel sounds present, No(t) Distended, woundvac,
   surgical wound coverage in place, staples, appears noninflamed
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Sedated, Tone: Not assessed, opens eyes
   Labs / Radiology
   10.1 g/dL
   264 K/uL
   114 mg/dL
   0.3 mg/dL
   26 mEq/L
   4.3 mEq/L
   9 mg/dL
   108 mEq/L
   139 mEq/L
   30.2 %
   12.8 K/uL
        [image002.jpg]
                             [**2180-3-6**]  05:17 PM
                             [**2180-3-7**]  04:28 AM
                             [**2180-3-7**]  04:45 PM
                             [**2180-3-8**]  04:50 AM
                             [**2180-3-8**]  05:15 PM
                             [**2180-3-9**]  04:07 AM
                             [**2180-3-9**]  05:05 PM
                             [**2180-3-9**]  06:22 PM
                             [**2180-3-9**]  10:32 PM
                             [**2180-3-10**]  05:20 AM
   WBC
   6.9
   9.0
   9.1
   13.6
   12.8
   Hct
   28.0
   26.1
   25.5
   24.0
   22
   32
   30.9
   30.2
   Plt
   [**Telephone/Fax (3) 2270**]35
   264
   Cr
   0.3
   0.4
   0.4
   0.3
   0.3
   0.5
   0.4
   0.3
   Glucose
   91
   97
   113
   103
   157
   121
   131
   115
   131
   114
   Other labs: PT / PTT / INR:14.0/31.7/1.2, ALT / AST:37/76, Alk Phos / T
   Bili:87/2.9, Amylase / Lipase:26/121, Differential-Neuts:87.0 %,
   Band:1.0 %, Lymph:7.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:200 mg/dL,
   Lactic Acid:2.3 mmol/L, Albumin:2.3 g/dL, LDH:225 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Microbiology: all neg x peritoneal wash that demonstrated yeast. Sputum
   pending but <10pmns and no orgs.
   Assessment and Plan
   Abdominal wound- fascia closed. Surgery does not have plans to return
   to OR for closure, but will continue with woundvac, wound will
   granulate.
   Resp- CXR and clinical status unconcerning for VAP. Would like to
   rapidly move towards extubation. Will be limited by prolonged sedation.
   Will try to lighten and switch to PS vent.
   Sedation- wean- starting with versed. If necessary will switch to
   fent/dexmed or propofol.
   Critically ill.
   40 minutes.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2180-3-9**] 02:26 PM 52.[**Telephone/Fax (5) 2077**] mL/hour
   Replete (Full) - [**2180-3-10**] 09:30 AM 10 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2180-2-28**] 10:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2180-03-11 07:22:00 Physician Resident Progress Note
Chief Complaint: 44 yo F with pelvic mass s/p supracervical
   hysterectomy and BSO, c/b SBO s/p resection and colostomy now with
   recent SB perforation s/p SB resection and side-side anastomosis with
   open abdomen in [**Hospital Unit Name 44**] for monitoring
   24 Hour Events:
   -TF restarted, high residuals so discontinued overnight
   -Vent wean started, tolerated PSV most of the day, became apneic in
   early morning, switched to MMV which she is tolerating. Sedation weaned
   further overnight.
   -Versed/fentanyl weaned; initially fentanyl down to 150 from 400 but
   patient was tachycardic; was then increased to 200 with some
   improvement in HR; can consider transition to propofol in am
   -Written for fentanyl patch (150mcg) with the idea of weaning fentanyl
   drip this pm
   -Was a bit tachycardic during the day, increased fentanyl as above and
   gave fluid bolus with increase in UOP and small decrease in HR, overall
   volume up
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2180-3-10**] 08:18 AM
   Piperacillin/Tazobactam (Zosyn) - [**2180-3-10**] 08:18 AM
   Fluconazole - [**2180-3-10**] 09:58 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2180-3-11**] 02:12 AM
   Famotidine (Pepcid) - [**2180-3-11**] 02:12 AM
   Fentanyl - [**2180-3-11**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-3-11**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.9
C (98.5
   HR: 108 (101 - 120) bpm
   BP: 120/74(85) {113/60(73) - 152/98(109)} mmHg
   RR: 15 (7 - 23) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 92.5 kg (admission): 127 kg
   Height: 61 Inch
    CVP: 10 (8 - 13)mmHg
   Total In:
                                                                  3,290 mL
                                                                    539 mL
   PO:
   TF:
                                                                     72 mL
   IVF:
                                                                  1,956 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                  2,175 mL
                                                                    750 mL
   Urine:
                                                                  1,935 mL
                                                                    580 mL
   NG:
                                                                    240 mL
                                                                    170 mL
   Stool:
   Drains:
   Balance:
                                                                  1,115 mL
                                                                   -211 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (0 - 550) mL
   Vt (Spontaneous): 408 (242 - 712) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 17 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 6.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   317 K/uL
   8.9 g/dL
   105 mg/dL
   0.3 mg/dL
   25 mEq/L
   4.3 mEq/L
   10 mg/dL
   108 mEq/L
   140 mEq/L
   27.2 %
   15.9 K/uL
        [image002.jpg]
                             [**2180-3-7**]  04:28 AM
                             [**2180-3-7**]  04:45 PM
                             [**2180-3-8**]  04:50 AM
                             [**2180-3-8**]  05:15 PM
                             [**2180-3-9**]  04:07 AM
                             [**2180-3-9**]  05:05 PM
                             [**2180-3-9**]  06:22 PM
                             [**2180-3-9**]  10:32 PM
                             [**2180-3-10**]  05:20 AM
                             [**2180-3-11**]  03:51 AM
   WBC
   6.9
   9.0
   9.1
   13.6
   12.8
   15.9
   Hct
   28.0
   26.1
   25.5
   24.0
   22
   32
   30.9
   30.2
   27.2
   Plt
   [**Telephone/Fax (3) 2270**]35
   264
   317
   Cr
   0.4
   0.4
   0.3
   0.3
   0.5
   0.4
   0.3
   0.3
   Glucose
   97
   113
   103
   157
   121
   131
   115
   131
   114
   105
   Other labs: PT / PTT / INR:14.0/31.7/1.2, ALT / AST:39/67, Alk Phos / T
   Bili:134/2.8, Amylase / Lipase:26/121, Differential-Neuts:87.0 %,
   Band:1.0 %, Lymph:7.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:200 mg/dL,
   Lactic Acid:2.3 mmol/L, Albumin:2.2 g/dL, LDH:277 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   44 yo F with pelvic mass s/p supracervical hysterectomy and BSO, c/b
   SBO s/p resection and colostomy now with recent SB perforation s/p SB
   resection and side-side anastomosis with open abdomen in [**Hospital Unit Name 44**] for
   monitoring given open abdomen.
   # Small bowel perforation s/p anastomosis from small bowel perforation,
   had been unable to close abdomen due to significant edema.  Now s/p
   fascial closure in the OR, no further plans for closure.  Abdomen will
   close by secondary intention.
   - Appreciate OB-gyn and general surgery recs- no further OR
   - Vac change q3 days per surgery
   - Dc'd vanco/pip-tazo/fluc as patient has completed 10 day course.
   - Peritoneal fluid with c.albicans, no other positive cx data
   - Continue to follow volume status. Has been slightly tachycardic with
   decreased UOP as compared to prior, now slightly volume up. Goal I/O
   even today.
   # Respiratory - On minimal vent support settings. Pt intubated >10
   days, initial concern for VAP given increased sputum, low grade
   temperature and increased leukocytosis; however, CXR and clinical
   status not concerning for VAP at this point.
   - On CPAP/PSV ventillation which she tolerated throughout the day.
   Required MMV given some apneic episodes.
   - Still sedated, but fentanyl/versed weaning
   - CXR today to evaluate for evolving infiltrate
   - Started on fentanyl patch to help decrease drip rate
   - Given no further OR, will wean as tolerated with the plan to extubate
   when able.
   # Leukocytosis - Increased today. Discontinued antibiotics yestereday
   as patient completed 10 day course. CXR not remarkable to VAP
   yesterday, but is high on the differential. HD stable. Low grade
   temperature to 100.3.
   - No clear source of infection, CXR today
   - Add on differential
   - All bcx NG; peritoneal fluid growing yeast as above, continue to
   follow micro
   - Pan-culture today and with spikes
   # Anemia: Hct down slightly this am. No clear source of bleeding.
   Decreased after OR, then bumped appropriately with 2 units. Has been HD
   stable. [**Month (only) 60**] be dilutional as patient with less UOP and less
   hemoconcentrated as she is off lasix gtt and overall I/O positive.
   - Rechecked CBC and hct stable at 27
   - Transfuse for HD instability or acute drop
   - Guaiac any ostomy output
   - Continue to monitor
   # Anasarca
 Significant improvement
   - Likely from IVFs, deconditioning, low albumin
   - I/O goals as above.
   - Patient still unable to tolerate TFs given high residuals.  Will
   continue to re-try daily until return of bowel function
   # Transaminitis
   - Downtrending/stable today. Unclear etiology for patient's
   transaminitis.  Patient is status post liver biopsy on [**2180-3-5**].
   - Had stopped following as levels were decreasing; however, with some
   evidence of ?scleral icterus they were found to be slightly increased
   (T. bili, ALP and LDH).  Can continue to monitor.
   - Results of liver biopsy showing non-specific process
   - Hep A, B, C negative.  HepBsAB +
   - Alpha 1 antitrypsin - 233 (slightly elevated)- difficult to interpret
   in this setting.  Ceruloplasmin normal.
   # DVT
   Patient was previously maintained on heparin gtt but had IVC filter
   placed in the setting of emergent OR.
   - IVC filter in place
   - SC heparin
   - Will discuss anticoagulation timeline with surgery today as patient
   has known DVT and will need anticoagulation
   # Altered Mental Status
   Unable to assess at this point.  Patient reportedly had altered mental
   status earlier this admission, thought possibly secondary to hepatic
   encephalopathy.  At this time she is on minimal sedation and still
   unable to follow commands.  Also quite flaccid on exam with no movement
   in extremities
   -Will re-evaluate once patient is s/p return to the OR after closure
   and able to be extubated
   - Will continue to monitor status over next few days and re-evaluate if
   still no purposeful movement or unable to follow commands off sedation
   # Hypertension - Stable.  Previously hypertensive, but now normotensive
   - Con
t to hold HTN medications and monitor VS, can consider adding
   back if needed today.
   # Sedation: Patient has been sedated and intubated for >10 days.  Given
   no further return to OR, will begin wean as above, maintaining fentanyl
   levels to ensure pain control.
   - On fentanyl patch to wean drip, now down from 400mcg gtt to 50 with
   150 mcg patch.
   - Will turn off versed as on minimal dose with agitation or signs of
   discomfort. Will give prn versed for agitation or signs of benzo
   withdrawal
   # FEN: On TPN, restarting trophic tube feeds as above, bowel regimen
   including colace and senna, replete lytes prn
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2180-3-10**] 06:00 PM 52 mL/hour
   Glycemic Control: ISS
   Lines:
   Multi Lumen - [**2180-2-28**] 10:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2180-03-11 09:46:00 Physician Attending Progress Note
Chief Complaint: hypotension, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   44 year old female w/pelvic mass s/p TAH/BSO c/b SBO, now with SBO
   perf, s/p fascial closure with open abdomen (fascia closed, plan
   secondary closure for skin)
   24 Hour Events:
   *Attempted TF but high residuals
   *Vent wean: PS for much of yesterday but changed to MMV due to apnea's
   *Sedation weaned: fentanyl 400mcg to 200 mcg/h. Fentanyl patch 150 mcg
   added. Versed now 0.5 mg/h
   History obtained from Medical records, [**Hospital Unit Name 44**] housestaff
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2180-3-10**] 08:18 AM
   Piperacillin/Tazobactam (Zosyn) - [**2180-3-10**] 08:18 AM
   Fluconazole - [**2180-3-10**] 09:58 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2180-3-11**] 02:12 AM
   Famotidine (Pepcid) - [**2180-3-11**] 02:12 AM
   Fentanyl - [**2180-3-11**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-3-11**] 09:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.8
C (100
   HR: 114 (101 - 120) bpm
   BP: 146/78(94) {113/60(73) - 152/101(110)} mmHg
   RR: 15 (7 - 23) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 92.5 kg (admission): 127 kg
   Height: 61 Inch
   CVP: 10 (8 - 13)mmHg
   Total In:
                                                                  3,290 mL
                                                                    688 mL
   PO:
   TF:
                                                                     72 mL
   IVF:
                                                                  1,956 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  2,175 mL
                                                                  1,010 mL
   Urine:
                                                                  1,935 mL
                                                                    840 mL
   NG:
                                                                    240 mL
                                                                    170 mL
   Stool:
   Drains:
   Balance:
                                                                  1,115 mL
                                                                   -322 mL
   Respiratory support
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (0 - 550) mL
   Vt (Spontaneous): 408 (242 - 712) mL
   PS : 12 cmH2O
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 7 L/min
   Physical Examination
   General Appearance: No(t) No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: tachycardic, no murmurs, n
l S1 and S2
   Peripheral Vascular: +DP pulses
   Respiratory: symmetric expansion, no wheezes or rhonchi
   Abdominal: open abdominal wound, wound vac in place
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Unable to stand
   Skin:  Warm, no rashes
   Neurologic: opens eyes but movements not purposeful, not following
   commands. Decreased muscle tone.
   Labs / Radiology
   9.1 g/dL
   326 K/uL
   105 mg/dL
   0.3 mg/dL
   25 mEq/L
   4.3 mEq/L
   10 mg/dL
   108 mEq/L
   140 mEq/L
   27.5 %
   17.9 K/uL
        [image002.jpg]
                             [**2180-3-7**]  04:45 PM
                             [**2180-3-8**]  04:50 AM
                             [**2180-3-8**]  05:15 PM
                             [**2180-3-9**]  04:07 AM
                             [**2180-3-9**]  05:05 PM
                             [**2180-3-9**]  06:22 PM
                             [**2180-3-9**]  10:32 PM
                             [**2180-3-10**]  05:20 AM
                             [**2180-3-11**]  03:51 AM
                             [**2180-3-11**]  08:14 AM
   WBC
   9.0
   9.1
   13.6
   12.8
   15.9
   17.9
   Hct
   26.1
   25.5
   24.0
   22
   32
   30.9
   30.2
   27.2
   27.5
   Plt
   244
   233
   235
   [**Telephone/Fax (3) 2298**]
   Cr
   0.4
   0.3
   0.3
   0.5
   0.4
   0.3
   0.3
   Glucose
   113
   103
   157
   121
   131
   115
   131
   114
   105
   Other labs: PT / PTT / INR:14.0/31.7/1.2, ALT / AST:39/67, Alk Phos / T
   Bili:134/2.8, Amylase / Lipase:26/121, Differential-Neuts:87.0 %,
   Band:1.0 %, Lymph:7.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:200 mg/dL,
   Lactic Acid:2.3 mmol/L, Albumin:2.2 g/dL, LDH:277 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR:
   Microbiology: no new cultures
   liver biopsy: non specific
   Assessment and Plan
   44 year old female s/p hypersterectomy, SBO s/p resection, colostomy,
   secondary closure of abd.
   #Resp failure: Remains ventilator dependent; on MMV with minimal resp
   drive.  [**Month (only) 60**] reflect degree of vent support, + lingering sedation. Will
   decrease MMV, continue to wean sedation.
   #Leukocytosis: increasing, unclear source. cultures obtained and
   pending
   #Nutrition: On TPN; can continue to attempt TF trials
   #Bowel perforation: continue vac changes, no plans for future surgery
   #Mental status: Not following commands, but has been on continuous
   sedation for >10 days. Dc Bdz gtt/prn or bolus dosing, continue to
   monitor MS.
   *Anemia: Hct down to 27, could be dilutional, cont to monitor
   #DVT: s/p IVC filter, talk to surgery abt when hep can be started
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2180-3-10**] 06:00 PM 52 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2180-2-28**] 10:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2180-03-12 07:11:00 Physician Resident Progress Note
Chief Complaint:  44 yo F with pelvic mass s/p supracervical
   hysterectomy and BSO, c/b SBO s/p resection and colostomy now with
   recent SB perforation s/p SB resection and side-side anastomosis with
   open abdomen in [**Hospital Unit Name 44**] for monitoring
   24 Hour Events:
 BLOOD CULTURED - At [**2180-3-11**] 10:00 AM
 BLOOD CULTURED - At [**2180-3-11**] 10:15 AM
 URINE CULTURE - At [**2180-3-11**] 10:15 AM
   tachycardic as sedatives weaned
   did start to wake up more
   500 cc NS given
   hydral given for increased BP
   extubated, lost NGT
   Vomiting bilious fluid, NGT replaced.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2180-3-10**] 08:18 AM
   Piperacillin/Tazobactam (Zosyn) - [**2180-3-10**] 08:18 AM
   Fluconazole - [**2180-3-10**] 09:58 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2180-3-12**] 12:45 AM
   Fentanyl - [**2180-3-12**] 01:20 AM
   Famotidine (Pepcid) - [**2180-3-12**] 02:02 AM
   Heparin Sodium (Prophylaxis) - [**2180-3-12**] 03:00 AM
   Midazolam (Versed) - [**2180-3-12**] 04:00 AM
   Other medications:
   Ondansetron IV prn
   Hydralazine 10mg IV Q6
   Fentanyl patch
   Senna prn
   Docusate prn
   Furosemide gtt
   Acetaminophen prn
   Artificial tears
   Insulin sliding scale
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Denies pain/nausea
   Flowsheet Data as of  [**2180-3-12**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.2
C (99
   HR: 126 (102 - 138) bpm
   BP: 169/99(114) {119/70(80) - 170/107(125)} mmHg
   RR: 19 (9 - 28) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 92.5 kg (admission): 127 kg
   Height: 61 Inch
    CVP: 11 (8 - 14)mmHg
   Total In:
                                                                  2,165 mL
                                                                    444 mL
   PO:
   TF:
   IVF:
                                                                    847 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  2,720 mL
                                                                    865 mL
   Urine:
                                                                  2,125 mL
                                                                    590 mL
   NG:
                                                                    470 mL
                                                                    275 mL
   Stool:
   Drains:
                                                                    125 mL
   Balance:
                                                                   -555 mL
                                                                   -421 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 580) mL
   Vt (Spontaneous): 79 (79 - 550) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 29,412
   PIP: 11 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 9.8 L/min
   Physical Examination
   Gen : Awake, responding to questions, NAD
   HEENT: NCAT, MM dry
   Neck:Supple, no elevated JVP, LSC line in place, c/d/i
   CV:tachy, regular, no murmurs
   Lungs:CTAB
   Abd: Open
   Ext:
   Neuro:
   Labs / Radiology
   354 K/uL
   8.7 g/dL
   132 mg/dL
   0.3 mg/dL
   26 mEq/L
   3.8 mEq/L
   9 mg/dL
   105 mEq/L
   138 mEq/L
   25.8 %
   14.2 K/uL
        [image002.jpg]
                             [**2180-3-8**]  04:50 AM
                             [**2180-3-8**]  05:15 PM
                             [**2180-3-9**]  04:07 AM
                             [**2180-3-9**]  05:05 PM
                             [**2180-3-9**]  06:22 PM
                             [**2180-3-9**]  10:32 PM
                             [**2180-3-10**]  05:20 AM
                             [**2180-3-11**]  03:51 AM
                             [**2180-3-11**]  08:14 AM
                             [**2180-3-12**]  04:48 AM
   WBC
   9.0
   9.1
   13.6
   12.8
   15.9
   17.9
   14.2
   Hct
   26.1
   25.5
   24.0
   22
   32
   30.9
   30.2
   27.2
   27.5
   25.8
   Plt
   244
   233
   235
   [**Telephone/Fax (3) 2298**]
   354
   Cr
   0.3
   0.3
   0.5
   0.4
   0.3
   0.3
   0.3
   Glucose
   103
   157
   121
   131
   115
   131
   114
   105
   132
   Other labs: PT / PTT / INR:13.7/30.9/1.2, ALT / AST:49/88, Alk Phos / T
   Bili:200/3.3, Amylase / Lipase:26/121, Differential-Neuts:61.0 %,
   Band:1.0 %, Lymph:22.0 %, Mono:10.0 %, Eos:5.0 %, Fibrinogen:200 mg/dL,
   Lactic Acid:2.3 mmol/L, Albumin:2.2 g/dL, LDH:318 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   44 yo F with pelvic mass s/p supracervical hysterectomy and BSO, c/b
   SBO s/p resection and colostomy now with recent SB perforation s/p SB
   resection and side-side anastomosis with open abdomen in [**Hospital Unit Name 44**] for
   monitoring given open abdomen.
   # Small bowel perforation s/p anastomosis from small bowel perforation,
   had been unable to close abdomen due to significant edema.  Now s/p
   fascial closure in the OR, no further plans for closure.  Abdomen will
   close by secondary intention.
   - Appreciate OB-gyn and general surgery recs- no further OR
   - Vac change q3 days per surgery
   - Dc'd vanco/pip-tazo/fluc as patient has completed 10 day course.
   - Peritoneal fluid with c.albicans, no other positive cx data
   - Continue to follow volume status. Has been slightly tachycardic with
   decreased UOP as compared to prior, now slightly volume up. Goal I/O
   even today.
   # Respiratory - On minimal vent support settings. Pt intubated >10
   days, initial concern for VAP given increased sputum, low grade
   temperature and increased leukocytosis; however, CXR and clinical
   status not concerning for VAP at this point.
   - On CPAP/PSV ventillation which she tolerated throughout the day.
   Required MMV given some apneic episodes.
   - Still sedated, but fentanyl/versed weaning
   - CXR today to evaluate for evolving infiltrate
   - Started on fentanyl patch to help decrease drip rate
   - Given no further OR, will wean as tolerated with the plan to extubate
   when able.
   # Leukocytosis - Increased today. Discontinued antibiotics yestereday
   as patient completed 10 day course. CXR not remarkable to VAP
   yesterday, but is high on the differential. HD stable. Low grade
   temperature to 100.3.
   - No clear source of infection, CXR today
   - Add on differential
   - All bcx NG; peritoneal fluid growing yeast as above, continue to
   follow micro
   - Pan-culture today and with spikes
   # Anemia: Hct down slightly this am. No clear source of bleeding.
   Decreased after OR, then bumped appropriately with 2 units. Has been HD
   stable. [**Month (only) 60**] be dilutional as patient with less UOP and less
   hemoconcentrated as she is off lasix gtt and overall I/O positive.
   - Rechecked CBC and hct stable at 27
   - Transfuse for HD instability or acute drop
   - Guaiac any ostomy output
   - Continue to monitor
   # Anasarca
 Significant improvement
   - Likely from IVFs, deconditioning, low albumin
   - I/O goals as above.
   - Patient still unable to tolerate TFs given high residuals.  Will
   continue to re-try daily until return of bowel function
   # Transaminitis
   - Downtrending/stable today. Unclear etiology for patient's
   transaminitis.  Patient is status post liver biopsy on [**2180-3-5**].
   - Had stopped following as levels were decreasing; however, with some
   evidence of ?scleral icterus they were found to be slightly increased
   (T. bili, ALP and LDH).  Can continue to monitor.
   - Results of liver biopsy showing non-specific process
   - Hep A, B, C negative.  HepBsAB +
   - Alpha 1 antitrypsin - 233 (slightly elevated)- difficult to interpret
   in this setting.  Ceruloplasmin normal.
   # DVT
   Patient was previously maintained on heparin gtt but had IVC filter
   placed in the setting of emergent OR.
   - IVC filter in place
   - SC heparin
   - Will discuss anticoagulation timeline with surgery today as patient
   has known DVT and will need anticoagulation
   # Altered Mental Status
   Unable to assess at this point.  Patient reportedly had altered mental
   status earlier this admission, thought possibly secondary to hepatic
   encephalopathy.  At this time she is on minimal sedation and still
   unable to follow commands.  Also quite flaccid on exam with no movement
   in extremities
   -Will re-evaluate once patient is s/p return to the OR after closure
   and able to be extubated
   - Will continue to monitor status over next few days and re-evaluate if
   still no purposeful movement or unable to follow commands off sedation
   # Hypertension - Stable.  Previously hypertensive, but now normotensive
   - Con
t to hold HTN medications and monitor VS, can consider adding
   back if needed today.
   # Sedation: Patient has been sedated and intubated for >10 days.  Given
   no further return to OR, will begin wean as above, maintaining fentanyl
   levels to ensure pain control.
   - On fentanyl patch to wean drip, now down from 400mcg gtt to 50 with
   150 mcg patch.
   - Will turn off versed as on minimal dose with agitation or signs of
   discomfort. Will give prn versed for agitation or signs of benzo
   withdrawal
   # FEN: On TPN, restarting trophic tube feeds as above, bowel regimen
   including colace and senna, replete lytes prn
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2180-3-10**] 06:00 PM 52 mL/hour
   Glycemic Control: ISS
   Lines:
   Multi Lumen - [**2180-2-28**] 10:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2180-03-12 12:33:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   44 yo female s/p hysteretomy, SBO s/p resection with open abdomen
   24 Hour Events:
   Sedation weaned with improvement in mental status
   Extubated this morning
   N/V this am.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2180-3-10**] 08:18 AM
   Piperacillin/Tazobactam (Zosyn) - [**2180-3-10**] 08:18 AM
   Fluconazole - [**2180-3-10**] 09:58 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2180-3-12**] 12:45 AM
   Fentanyl - [**2180-3-12**] 01:20 AM
   Famotidine (Pepcid) - [**2180-3-12**] 02:02 AM
   Heparin Sodium (Prophylaxis) - [**2180-3-12**] 03:00 AM
   Midazolam (Versed) - [**2180-3-12**] 04:00 AM
   Other medications:
   H2 blocker, colace, fentanyl patch
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-3-12**] 12:31 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.6
C (99.6
   HR: 106 (104 - 138) bpm
   BP: 150/99(112) {122/74(85) - 170/107(120)} mmHg
   RR: 16 (9 - 21) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 92.5 kg (admission): 127 kg
   Height: 61 Inch
   CVP: 6 (6 - 14)mmHg
   Total In:
                                                                  2,165 mL
                                                                    756 mL
   PO:
   TF:
   IVF:
                                                                    847 mL
                                                                    122 mL
   Blood products:
   Total out:
                                                                  2,720 mL
                                                                  1,385 mL
   Urine:
                                                                  2,125 mL
                                                                    810 mL
   NG:
                                                                    470 mL
                                                                    575 mL
   Stool:
   Drains:
                                                                    125 mL
   Balance:
                                                                   -555 mL
                                                                   -629 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 580) mL
   Vt (Spontaneous): 79 (79 - 550) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 29,412
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 9.8 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, wound vac with dressing in
   place; +colostomy
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: voice,
   Movement: Purposeful, No(t) Sedated, No(t) Paralyzed,
   Labs / Radiology
   8.7 g/dL
   354 K/uL
   132 mg/dL
   0.3 mg/dL
   26 mEq/L
   3.8 mEq/L
   9 mg/dL
   105 mEq/L
   138 mEq/L
   25.8 %
   14.2 K/uL
        [image002.jpg]
                             [**2180-3-8**]  04:50 AM
                             [**2180-3-8**]  05:15 PM
                             [**2180-3-9**]  04:07 AM
                             [**2180-3-9**]  05:05 PM
                             [**2180-3-9**]  06:22 PM
                             [**2180-3-9**]  10:32 PM
                             [**2180-3-10**]  05:20 AM
                             [**2180-3-11**]  03:51 AM
                             [**2180-3-11**]  08:14 AM
                             [**2180-3-12**]  04:48 AM
   WBC
   9.0
   9.1
   13.6
   12.8
   15.9
   17.9
   14.2
   Hct
   26.1
   25.5
   24.0
   22
   32
   30.9
   30.2
   27.2
   27.5
   25.8
   Plt
   244
   233
   235
   [**Telephone/Fax (3) 2298**]
   354
   Cr
   0.3
   0.3
   0.5
   0.4
   0.3
   0.3
   0.3
   Glucose
   103
   157
   121
   131
   115
   131
   114
   105
   132
   Other labs: PT / PTT / INR:13.7/30.9/1.2, ALT / AST:49/88, Alk Phos / T
   Bili:200/3.3, Amylase / Lipase:26/121, Differential-Neuts:61.0 %,
   Band:1.0 %, Lymph:22.0 %, Mono:10.0 %, Eos:5.0 %, Fibrinogen:200 mg/dL,
   Lactic Acid:2.3 mmol/L, Albumin:2.2 g/dL, LDH:318 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Microbiology: Peritoneal fluid [**3-2**]: [**Female First Name (un) 188**]
   Assessment and Plan
   44 year old female  with GIST tumor s/p supracervical hysterectomy
   complicated by SBO/perf s/p resection/colostomy, now with open
   abdominal wound
   *SBO perf:
   s/p ex lap, wound vac in place
   Complete antibiotic course
   *Resp failure- extubated this morning, requiring minimal oxygen.
   Continue pulmonary toilet.
   *N/V: Place NGT back given N/V
   *Pain: appears controlled on fentanyl patch
   *Leukocytosis: some low grade fevers, but overall decreasing.
   *Anemia: slow trend downward in Hct. Re check later today, no need for
   transfusion.
   *HTN: Has been off home meds during surgeries. BP increasing- due to
   need for IV meds will start hydralazine
   *DVT s/p IVC filter: readdress timing of anticoagulation w/surgery
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2180-3-11**] 05:46 PM 52 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Insulin in TPN
   Lines:
   Multi Lumen - [**2180-2-28**] 10:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2180-03-13 07:28:00 Physician Resident Progress Note
Chief Complaint: 44 yo F with pelvic mass s/p supracervical
   hysterectomy and BSO, c/b SBO s/p resection and colostomy now with
   recent SB perforation s/p SB resection and side-side anastomosis with
   open abdomen in [**Hospital Unit Name 44**] for monitoring, now extubated with delirium.
   24 Hour Events:
   -Extubated yesterday am
   -Started on hydal IV Q6 for HTN, on 3 oral agents at home
   -Remained tachycardic during day and into the night, did not respond to
   fluid boluses, UOP still ok.  Had NGT replaced, persistently vomiting
   throughout the day.  Got antiemetics, ativan seemed to make her more
   confused however now she is tachycardic, hypertensive, confused,
   tremulous
   -HCT stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2180-3-10**] 08:18 AM
   Vancomycin - [**2180-3-10**] 08:18 AM
   Fluconazole - [**2180-3-10**] 09:58 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2180-3-13**] 01:00 AM
   Famotidine (Pepcid) - [**2180-3-13**] 02:00 AM
   Heparin Sodium (Prophylaxis) - [**2180-3-13**] 02:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-3-13**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (98.9
   HR: 135 (94 - 144) bpm
   BP: 155/87(103) {140/87(101) - 163/106(119)} mmHg
   RR: 17 (13 - 19) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 92.5 kg (admission): 127 kg
   Height: 61 Inch
    CVP: 11 (5 - 13)mmHg
   Total In:
                                                                  2,461 mL
                                                                    953 mL
   PO:
   TF:
   IVF:
                                                                  1,210 mL
                                                                    573 mL
   Blood products:
   Total out:
                                                                  2,345 mL
                                                                    740 mL
   Urine:
                                                                  1,520 mL
                                                                    390 mL
   NG:
                                                                    825 mL
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                    116 mL
                                                                    213 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 2L
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   Gen : Awake, responding to questions, confused, NAD
   HEENT: NCAT, MM dry, NGT in place
   Neck:Supple, no elevated JVP, LSC line in place, c/d/i
   CV:tachy, regular, no murmurs
   Lungs: CTAB
   Abd: Open with wound vac in place.  BS present, slight brown liquid and
   gas in ostomy bag
   Ext: 2+ pitting edema b/l
   Neuro: awake, oriented, strength 3-4/5, symmetrical.
   Labs / Radiology
   448 K/uL
   8.4 g/dL
   126 mg/dL
   0.2 mg/dL
   25 mEq/L
   3.5 mEq/L
   10 mg/dL
   107 mEq/L
   138 mEq/L
   25.4 %
   15.1 K/uL
        [image002.jpg]
                             [**2180-3-9**]  04:07 AM
                             [**2180-3-9**]  05:05 PM
                             [**2180-3-9**]  06:22 PM
                             [**2180-3-9**]  10:32 PM
                             [**2180-3-10**]  05:20 AM
                             [**2180-3-11**]  03:51 AM
                             [**2180-3-11**]  08:14 AM
                             [**2180-3-12**]  04:48 AM
                             [**2180-3-12**]  02:15 PM
                             [**2180-3-13**]  04:26 AM
   WBC
   9.1
   13.6
   12.8
   15.9
   17.9
   14.2
   15.1
   Hct
   24.0
   22
   32
   30.9
   30.2
   27.2
   27.5
   25.8
   26.2
   25.4
   Plt
   233
   235
   264
   [**Telephone/Fax (3) 2317**]
   448
   Cr
   0.5
   0.4
   0.3
   0.3
   0.3
   0.2
   Glucose
   121
   131
   115
   131
   114
   105
   132
   126
   Other labs: PT / PTT / INR:13.1/28.2/1.1, ALT / AST:49/88, Alk Phos / T
   Bili:200/3.3, Amylase / Lipase:26/121, Differential-Neuts:61.0 %,
   Band:1.0 %, Lymph:22.0 %, Mono:10.0 %, Eos:5.0 %, Fibrinogen:200 mg/dL,
   Lactic Acid:2.3 mmol/L, Albumin:2.2 g/dL, LDH:318 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   44 yo F with pelvic mass s/p supracervical hysterectomy and BSO, c/b
   SBO s/p resection and colostomy now with recent SB perforation s/p SB
   resection and side-side anastomosis with open abdomen in [**Hospital Unit Name 44**] for
   monitoring given open abdomen now extubated.
   # Small bowel perforation s/p anastomosis from small bowel
   perforation/GIST: Had been unable to close abdomen due to significant
   edema.  Now s/p fascial closure in the OR, no further plans for
   closure.  Abdomen will close by secondary intention.   Patient had
   apparently had undetected perforation for several days when she
   initially presented. Now with tachycardia (see below), concern for
   other abdominal event.
   - Appreciate OB-gyn and general surgery recs- no further OR
   - Vac change q3 days per surgery, will be changed today
   - Dc'd vanco/pip-tazo/fluc as patient has completed 10 day course.
   - Peritoneal fluid with c.albicans, no other positive cx data
   - CT abdomen with contrast today to evaluate for possible perforation
   given current clinical status
   - Will touch base with heme/onc tomorrow to determine next
   step/prognosis/treatment plan
   - Continue to follow volume status.
   - Goal I/O even today. Will bolus for tachycardia, hypotension
   # Respiratory: Extubated [**2180-3-12**]. Sating well on 2L nasal cannula.  CXR
   clear, no sputum production.
   # Leukocytosis: WBC remains elevated. Discontinued antibiotics after 10
   day course. Oxgenating well, no increased sputum production suspicious
   for VAP. HD stable. Still with low grade temperature to 100.  Concern
   as above for intra-abdominal pathology.
   - CT abdomen as above
   - No clear source of infection, CXR showed no signs of focal infiltrate
   - No left shift on differential
   - All bcx NG; peritoneal fluid growing yeast as above, continue to
   follow micro
   - Culture if spikes
   #Nausea/vomiting:  Ddx includes ileus/SBO, pt is passing gas and has
   bowel sounds.  Likely has some compenent of ileus in setting of
   prolonged fentanyl use and surgical manipulation, also may be rxn to
   meds, esp opiates.
   -NGT in place, position confirmed on CXR
   -hold TF while vomiting and while there is surgical concern for
   perforation
   -antiemetics PRN
   -bolus IVF prn if appears dry [**12-25**] hypovolemia
   # Tachycardia: Not responsive to IVF. Urine output still adequate.
   Given tremor and delirium, may be consistent with benzo withdrawal.
   Other possible etiology is PE, though patient has been normotensive and
   has IVC filter in place.  However, she has not been adequately
   anticoagulated for her DVT.
   - CIWA scale with valium, will load her this morning and assess for
   improvement.
   - Will get CTA along with abdominal CT as above to rule out PE and
   perforation as sources of tachycardia
   # Anemia: Hct stable this am
   - Transfuse for HD instability or acute drop
   - Guaiac any ostomy output
   - Continue to monitor
   - Keep active type and screen
   # Anasarca: Significant improvement
   - Likely from IVFs, deconditioning, low albumin
   - I/O goals as above.
   - Patient still unable to tolerate TFs given high residuals.  Will
   continue to re-try daily until return of bowel function
   # Transaminitis
   - Slightly increased over the last few days
   - Liver path most c/w systemic process such as sepsis/hypotension/drug
   effect.
   - Avoid hepatotoxins, continue to trend
   # DVT
   Patient was previously maintained on heparin gtt but had IVC filter
   placed in the setting of emergent OR.
   - IVC filter in place
   - SC heparin
   - After discussion with surgery, will start patient on heparin gtt once
   perforation ruled out by CT today for therapeutic anticoagulation given
   known DVT.
   # Hypertension: Stable.  Has been hypertensive over last few days.  On
   three-drug antihypertensive regimen at home.  Will avoid PO agents due
   to ileus and concerns above.
   - Tx with IV hydralazine Q6 for now with parameters.
   - Transition back to home meds when able
   - continue to monitor.
   # FEN: On TPN, holding TF as above
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2180-3-12**] 05:44 PM 52 mL/hour
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2180-2-28**] 10:00 PM
   Prophylaxis:
   DVT: heparin sc, ivc filter
   Stress ulcer: famotidine
   VAP:  extubated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2180-03-13 12:04:00 Physician Attending Progress Note
Chief Complaint: bowel perf
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   44 yo female s/p GIST tumor resection c/b SBO perf s/p
   resection/colostomy with open abdominal wound
   24 Hour Events:
   *Extubated
   *Restarted hydralazine for BP meds
   *Remained tachycardic unresponsive to fluids
   *Persistent N/V
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2180-3-13**] 02:00 AM
   Heparin Sodium (Prophylaxis) - [**2180-3-13**] 10:01 AM
   Lorazepam (Ativan) - [**2180-3-13**] 10:31 AM
   Other medications:
   fentanyl patch, hydralazine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-3-13**] 12:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 124 (94 - 144) bpm
   BP: 156/98(111) {140/87(101) - 163/106(119)} mmHg
   RR: 18 (13 - 19) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 92.5 kg (admission): 127 kg
   Height: 61 Inch
   CVP: 11 (5 - 13)mmHg
   Total In:
                                                                  2,461 mL
                                                                  1,330 mL
   PO:
   TF:
   IVF:
                                                                  1,210 mL
                                                                    718 mL
   Blood products:
   Total out:
                                                                  2,345 mL
                                                                  1,008 mL
   Urine:
                                                                  1,520 mL
                                                                    558 mL
   NG:
                                                                    825 mL
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                    116 mL
                                                                    322 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud), No(t) S3, No(t) S4,
   No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic), tachycardic;
   split S2
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, No(t) Tender: , ostomy with output; wound vac dressing
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, confused, talking but
   Labs / Radiology
   8.4 g/dL
   448 K/uL
   126 mg/dL
   0.2 mg/dL
   25 mEq/L
   3.5 mEq/L
   10 mg/dL
   107 mEq/L
   138 mEq/L
   25.4 %
   15.1 K/uL
        [image002.jpg]
                             [**2180-3-9**]  04:07 AM
                             [**2180-3-9**]  05:05 PM
                             [**2180-3-9**]  06:22 PM
                             [**2180-3-9**]  10:32 PM
                             [**2180-3-10**]  05:20 AM
                             [**2180-3-11**]  03:51 AM
                             [**2180-3-11**]  08:14 AM
                             [**2180-3-12**]  04:48 AM
                             [**2180-3-12**]  02:15 PM
                             [**2180-3-13**]  04:26 AM
   WBC
   9.1
   13.6
   12.8
   15.9
   17.9
   14.2
   15.1
   Hct
   24.0
   22
   32
   30.9
   30.2
   27.2
   27.5
   25.8
   26.2
   25.4
   Plt
   233
   235
   264
   [**Telephone/Fax (3) 2317**]
   448
   Cr
   0.5
   0.4
   0.3
   0.3
   0.3
   0.2
   Glucose
   121
   131
   115
   131
   114
   105
   132
   126
   Other labs: PT / PTT / INR:13.1/28.2/1.1, ALT / AST:64/98, Alk Phos / T
   Bili:335/3.1, Amylase / Lipase:26/121, Differential-Neuts:61.0 %,
   Band:1.0 %, Lymph:22.0 %, Mono:10.0 %, Eos:5.0 %, Fibrinogen:200 mg/dL,
   Lactic Acid:2.3 mmol/L, Albumin:2.2 g/dL, LDH:340 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   44 yo female s/p GIST tumor resection c/b SBO perf s/p
   resection/colostomy with open abdominal wound. Extubated yesterday with
   reasonable respiratory status, but with continued mental status
   changes/confusion
   #Mental status changes: Concern for SBO perf as prior episodes were not
   associated with pain, causing dx to be delayed. Other possiblites
   include agitation/withdrawal, PE.
   -Switch to valium due to longer half-life to address possible Bdz
   withdrawal
   - CTA/CT abd to evaluate for PE/SBP perf
   #SBO perf: continue NGT, holding enteral feeds given N/V
   #Resp failure:  s/p extubation with small oxygen requirement
   #DVT: s/p IVC filter. If CT abd negative, plan to restart heparin, no
   bolus.
   #HTN: on hydralazine IV
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2180-3-12**] 05:44 PM 52 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-2-28**] 10:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2180-03-14 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2180-3-13**] 07:37 PM
 FEVER - 101.3
F - [**2180-3-13**] 07:00 PM
   - Started on valium CIWA with loaded with little improvement in HR or
   BP, though was not actually receiving much (only 15mg valium given
   during the day until 8pm) -> reconfirmed q1H CIWA with nursing to load
   valium
   - CTA and CT abdomen/pelvis: prelim read showing no large PE, anasarca,
   small L pleural effusion and multiple areas of small abscesses in the
   peritoneal cavity
   - Spiked T 101.3 at 7:30pm, given tylenol and bcx sent, c. diff ordered
   - Patient was able to tolerate mucomyst and contrast prior to CT,
   afterwards, not able to tolerate NGT clamping though still with ostomy
   output
   - Still unable to sleep/delirious with valium, given one dose of 0.5mg
   Haldol which allowed her to sleep for approx 1 hour per nurse.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2180-3-13**] 10:31 AM
   Fentanyl - [**2180-3-13**] 08:03 PM
   Diazepam (Valium) - [**2180-3-13**] 11:54 PM
   Famotidine (Pepcid) - [**2180-3-14**] 01:34 AM
   Heparin Sodium (Prophylaxis) - [**2180-3-14**] 01:43 AM
   Haloperidol (Haldol) - [**2180-3-14**] 01:43 AM
   Hydralazine - [**2180-3-14**] 05:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-3-14**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.6
C (99.6
   HR: 120 (114 - 136) bpm
   BP: 153/100(112) {136/86(99) - 165/122(127)} mmHg
   RR: 18 (16 - 23) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 92.5 kg (admission): 127 kg
   Height: 61 Inch
             Total In:
                                                                  2,984 mL
                                                                    724 mL
   PO:
             TF:
   IVF:
                                                                  1,736 mL
                                                                    330 mL
   Blood products:
   Total out:
                                                                  2,488 mL
                                                                    500 mL
   Urine:
                                                                  1,238 mL
                                                                    400 mL
   NG:
                                                                    950 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    496 mL
                                                                    224 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   Gen : Awake, responding to questions, NAD
   HEENT: NCAT, MM dry, NGT in place
   Neck:Supple, no elevated JVP, LSC line in place, c/d/i
   CV:tachy, regular, no murmurs
   Lungs: CTAB
   Abd: Open with wound vac in place.  BS present
   Ext: 2+ pitting edema b/l.  1+ LUE edema
   Neuro: awake, oriented x 3, strength 3-4/5, symmetrical.
   Labs / Radiology
   547 K/uL
   8.4 g/dL
   120 mg/dL
   0.3 mg/dL
   27 mEq/L
   3.4 mEq/L
   10 mg/dL
   106 mEq/L
   139 mEq/L
   26.0 %
   14.2 K/uL
        [image002.jpg]
                             [**2180-3-9**]  05:05 PM
                             [**2180-3-9**]  06:22 PM
                             [**2180-3-9**]  10:32 PM
                             [**2180-3-10**]  05:20 AM
                             [**2180-3-11**]  03:51 AM
                             [**2180-3-11**]  08:14 AM
                             [**2180-3-12**]  04:48 AM
                             [**2180-3-12**]  02:15 PM
                             [**2180-3-13**]  04:26 AM
                             [**2180-3-14**]  04:30 AM
   WBC
   13.6
   12.8
   15.9
   17.9
   14.2
   15.1
   14.2
   Hct
   22
   32
   30.9
   30.2
   27.2
   27.5
   25.8
   26.2
   25.4
   26.0
   Plt
   235
   264
   317
   326
   354
   448
   547
   Cr
   0.4
   0.3
   0.3
   0.3
   0.2
   0.3
   Glucose
   131
   115
   131
   114
   105
   132
   126
   120
   Other labs: PT / PTT / INR:13.1/28.2/1.1, ALT / AST:72/100, Alk Phos /
   T Bili:478/2.9, Amylase / Lipase:30/85, Differential-Neuts:61.0 %,
   Band:1.0 %, Lymph:22.0 %, Mono:10.0 %, Eos:5.0 %, Fibrinogen:200 mg/dL,
   Lactic Acid:2.3 mmol/L, Albumin:2.2 g/dL, LDH:326 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   [**2180-3-13**] CTA CHEST and CT ABDOMEN:
   IMPRESSION:
   1. Status post TAH-BSO and GIST tumor removal , there are now multiple
   fluid
   collections within the peritoneal cavity-in the left anterior pararenal
   space,
   within the root of the mesentry and in the surgical resection site at
   the base
   of the bladder.
   2. No pulmonary embolism is noted within the main pulmonary artery and
   its
   main branches. The evaluation for subsegmental pulmonary embolism was
   limited
   due to motion and poor bolus.
   3.High density meaterial around the liver was not present on prior
   studies and
   raises the possiblity of leak.
   4. Small left pleural effusion.
   Assessment and Plan
   44 yo F with pelvic mass s/p supracervical hysterectomy and BSO, c/b
   SBO s/p resection and colostomy now with recent SB perforation s/p SB
   resection and side-side anastomosis with open abdomen in [**Hospital Unit Name 44**] for
   monitoring given open abdomen now extubated but continues to have low
   grade temps
   # Small bowel perforation s/p anastomosis from small bowel
   perforation/GIST: Had been unable to close abdomen due to significant
   edema.  Now s/p fascial closure in the OR, no further plans for
   closure.  Abdomen will close by secondary intention.
   - Appreciate OB-gyn and general surgery recs- no further OR.  CT
   abdomen with leak concerning for small bowel perf. Also concerning for
   small abscesses per radiology read.
   - hold off on tube feeds for now.  Per surgery, will start cipro/flagyl
   for bowel perf, low temps, elevated WBC (now stable)
   - Vac change q3 days per surgery
   - Peritoneal fluid with c.albicans, no other positive cx data
   - heme/onc consult for GIST
   - Goal I/O even today
   # Respiratory: Extubated [**2180-3-12**]. CXR clear, no sputum production.
   # Leukocytosis: WBC remains elevated. Discontinued antibiotics after 10
   day course.
   - start cipro/flagyl for suspected small bowel perf based on CT scan.
   Hold tube feeds.  Likely abdominal (abscess, perf) source of fever and
   leukocytosis
   - All bcx NG; peritoneal fluid growing yeast as above, continue to
   follow micro
   - Culture if spikes
   #Nausea/vomiting:  Likely has some compenent of ileus in setting of
   prolonged fentanyl use and surgical manipulation, also may be rxn to
   meds, esp opiates.
   -NGT in place, position confirmed on CXR
   -hold TF while there is perforation
   -antiemetics PRN
   # Tachycardia: Not responsive to IVF. Urine output still adequate.
   Given tremor and delirium, may be consistent with benzo withdrawal.
   - CIWA scale with valium.  Delerium improving but continues to be
   tachycardic
   - CTA without evidence of PE
   # Anemia: Hct stable this am
   - Transfuse for HD instability or acute drop
   - Guaiac any ostomy output- guaiac positive.  But hct stable
   - Continue to monitor
   - Keep active type and screen
   # Anasarca: Significant improvement.
   - Likely from IVFs, deconditioning, low albumin
   - I/O goals as above.
   # Transaminitis
   - Liver path most c/w systemic process such as sepsis/hypotension/drug
   effect.
   - Avoid hepatotoxins, continue to trend
   # DVT- new LUE swelling
   - will get LUE US to eval for DVT
   Patient was previously maintained on heparin gtt but had IVC filter
   placed in the setting of emergent OR.
   - IVC filter in place
   - SC heparin
   - will hold of hep gtt given ? perf and guaiac positive stools
   # Hypertension: Stable.  Has been hypertensive over last few days.  On
   three-drug antihypertensive regimen at home.  Will avoid PO agents due
   to ileus and concerns above.
   - Tx with IV hydralazine Q6 for now with parameters.
   - Transition back to home meds when able
   - continue to monitor.
   # FEN: On TPN, holding TF as above
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2180-3-13**] 05:39 PM 52 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-2-28**] 10:00 PM.  Will need to try other access given
   fever; if afebrile x 24 hrs, can place PICC, otherwise will likely
   need another CVL
   Prophylaxis:
   DVT: hep sc, IVC filter
   Stress ulcer: famotidine
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU care while evaluating persistent tachycardia/fevers
   and now new probably perforation
   ------ Protected Section ------
   Pain Management: fentanyl patch to 100 mcg; morphine 1-2 mg IV q4 PRN
   pain.
   - will also get PT consult
   ------ Protected Section Addendum Entered By:[**Name (NI) 2080**] [**Name8 (MD) **], MD
   on:[**2180-3-14**] 17:13 ------

2180-03-14 11:10:00 Physician Attending Progress Note
Chief Complaint: delerium
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   44 yo female s/p GIST tumor resection c/b SBO perf s/p
   resection/colostomy with open abdominal wound. Extubated [**3-12**], with
   continued mental status changes/confusion.
   24 Hour Events:
 BLOOD CULTURED - At [**2180-3-13**] 07:37 PM
 FEVER - 101.3
F - [**2180-3-13**] 07:00 PM
   CT abd shows multiple small abscesses in peritoneal cavity. CTPA no PE.
   Liver bx nonspecific.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2180-3-13**] 08:03 PM
   Diazepam (Valium) - [**2180-3-13**] 11:54 PM
   Famotidine (Pepcid) - [**2180-3-14**] 01:34 AM
   Haloperidol (Haldol) - [**2180-3-14**] 01:43 AM
   Hydralazine - [**2180-3-14**] 05:56 AM
   Heparin Sodium (Prophylaxis) - [**2180-3-14**] 09:49 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: hungry
   Flowsheet Data as of  [**2180-3-14**] 11:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.1
C (100.6
   HR: 126 (114 - 136) bpm
   BP: 147/92(105) {136/82(94) - 165/122(127)} mmHg
   RR: 21 (17 - 23) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 92.5 kg (admission): 127 kg
   Height: 61 Inch
             Total In:
                                                                  2,984 mL
                                                                    988 mL
   PO:
             TF:
   IVF:
                                                                  1,736 mL
                                                                    432 mL
   Blood products:
   Total out:
                                                                  2,488 mL
                                                                    870 mL
   Urine:
                                                                  1,238 mL
                                                                    620 mL
   NG:
                                                                    950 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    496 mL
                                                                    118 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General Appearance: Overweight / Obese, No(t) Anxious, No(t)
   Diaphoretic
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended, abd
   wound with woundvac
   Extremities: Right: 1+, Left: 2+, No(t) Cyanosis, left UE >>right
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, Tone:
   Decreased
   Labs / Radiology
   8.4 g/dL
   547 K/uL
   120 mg/dL
   0.3 mg/dL
   27 mEq/L
   3.4 mEq/L
   10 mg/dL
   106 mEq/L
   139 mEq/L
   26.0 %
   14.2 K/uL
        [image002.jpg]
                             [**2180-3-9**]  05:05 PM
                             [**2180-3-9**]  06:22 PM
                             [**2180-3-9**]  10:32 PM
                             [**2180-3-10**]  05:20 AM
                             [**2180-3-11**]  03:51 AM
                             [**2180-3-11**]  08:14 AM
                             [**2180-3-12**]  04:48 AM
                             [**2180-3-12**]  02:15 PM
                             [**2180-3-13**]  04:26 AM
                             [**2180-3-14**]  04:30 AM
   WBC
   13.6
   12.8
   15.9
   17.9
   14.2
   15.1
   14.2
   Hct
   22
   32
   30.9
   30.2
   27.2
   27.5
   25.8
   26.2
   25.4
   26.0
   Plt
   235
   264
   317
   326
   354
   448
   547
   Cr
   0.4
   0.3
   0.3
   0.3
   0.2
   0.3
   Glucose
   131
   115
   131
   114
   105
   132
   126
   120
   Other labs: PT / PTT / INR:13.1/28.2/1.1, ALT / AST:72/100, Alk Phos /
   T Bili:478/2.9, Amylase / Lipase:30/85, Differential-Neuts:61.0 %,
   Band:1.0 %, Lymph:22.0 %, Mono:10.0 %, Eos:5.0 %, Fibrinogen:200 mg/dL,
   Lactic Acid:2.3 mmol/L, Albumin:2.2 g/dL, LDH:326 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Imaging: USG [**2-23**] no stones,
   Assessment and Plan
   44 yo female s/p GIST tumor resection c/b SBO perf s/p
   resection/colostomy with open abdominal wound. Extubated [**3-12**] and had
   post extubation delerium.
   #Tachycardia, fever
   Sources: DVT, multiple peritoneal abscesses, bzd withdrawal.
   Blood cx with fevers given CT findings. No new micro data.
   Remove CVC, place PICC for TPN if possible (in setting of low grade
   fever). Hopefully will not need TPN much longer as we will decrease
   narcotics, start reglan, but will place new CVC if PICC not possible.
   #Mental status changes: Now oriented, lucid, normal MS.
   prn valium PO if necessary for bzd withdrawal.
   #SBO perf: continue NGT suction as RN reports clamping tube induces
   nausea and vomiting. Has fent patch 150mcg and fent IV boluses. Will
   decrease fent patch to 100mcg/h and morphine 2-4mg IV prior to nursing
   care that causes discomfort/pain. Restarting reglan.
   #Resp failure:  s/p extubation with no oxygen requirement, no resp
   distress
   #DVT: s/p IVC filter. No heparin considering guaiac pos stool in
   colostomy bag.
   New left UE swelling- left hand swelling is new. USG to r/o LUE DVT.
   #GI bleed as described. Hct stable, recheck.
   #HTN: on hydralazine IV
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2180-3-13**] 05:39 PM 52 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-2-28**] 10:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments: PT consult
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2180-03-15 06:50:00 Physician Resident Progress Note
Chief Complaint: 44 yo F with pelvic mass s/p supracervical
   hysterectomy and BSO, c/b SBO s/p resection and colostomy now with
   recent SB perforation s/p SB resection and side-side anastomosis with
   open abdomen in [**Hospital Unit Name 44**] for monitoring, now extubated with delirium.
   24 Hour Events:
 ULTRASOUND - At [**2180-3-14**] 04:35 PM
   - Surgery recommended holding off on TFs for now since she has a
   "contrast leak" concerning for perforation again.  Also, with fluid
   collection/abscessess, recommended starting vanco/zosyn.
   - If afebrile x 24 hrs, will place PICC, otherwise, will need new CVL.
   Unlikely though that CVL is source of infection, likely abdomen and all
   blood cultures have been NGTD
   - No DVT in LUE
   - Fentanyl patch decreased to 100 mcg.  Also started on morphine IV PRN
   - No physical therapy per PT at this time as surgery does not want
   patient to use her abdominal muscles (high risk for dehiscence)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2180-3-14**] 05:25 PM
   Ciprofloxacin - [**2180-3-14**] 06:17 PM
   Vancomycin - [**2180-3-14**] 09:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2180-3-15**] 04:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2180-3-15**] 12:00 AM
   Hydralazine - [**2180-3-15**] 12:00 AM
   Famotidine (Pepcid) - [**2180-3-15**] 02:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-3-15**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.1
C (98.7
   HR: 124 (112 - 133) bpm
   BP: 146/84(97) {127/67(81) - 160/95(106)} mmHg
   RR: 19 (16 - 21) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 92.5 kg (admission): 127 kg
   Height: 61 Inch
             Total In:
                                                                  2,466 mL
                                                                    478 mL
   PO:
             TF:
                                                                     40 mL
   IVF:
                                                                  1,194 mL
                                                                    141 mL
   Blood products:
   Total out:
                                                                  1,565 mL
                                                                    750 mL
   Urine:
                                                                  1,240 mL
                                                                    750 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    901 mL
                                                                   -272 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98% on RA
   ABG: ///24/
   Physical Examination
   Gen : Awake, oriented, responding to questions, NAD
   HEENT: NCAT, MM dry, NGT in place
   Neck:Supple, no elevated JVP, LSC line in place, c/d/i
   CV: tachy, regular, no murmurs
   Lungs: CTAB
   Abd: Open with wound vac in place.  BS present
   Ext: 2+ pitting edema b/l.  1+ LUE edema
   Neuro: awake, oriented x 3.
   Labs / Radiology
   544 K/uL
   8.5 g/dL
   114 mg/dL
   0.4 mg/dL
   24 mEq/L
   4.3 mEq/L
   10 mg/dL
   106 mEq/L
   137 mEq/L
   25.3 %
   13.8 K/uL
        [image002.jpg]
                             [**2180-3-9**]  10:32 PM
                             [**2180-3-10**]  05:20 AM
                             [**2180-3-11**]  03:51 AM
                             [**2180-3-11**]  08:14 AM
                             [**2180-3-12**]  04:48 AM
                             [**2180-3-12**]  02:15 PM
                             [**2180-3-13**]  04:26 AM
                             [**2180-3-14**]  04:30 AM
                             [**2180-3-14**]  04:21 PM
                             [**2180-3-15**]  04:13 AM
   WBC
   13.6
   12.8
   15.9
   17.9
   14.2
   15.1
   14.2
   13.8
   Hct
   30.9
   30.2
   27.2
   27.5
   25.8
   26.2
   25.4
   26.0
   26.0
   25.3
   Plt
   235
   264
   317
   326
   354
   448
   547
   544
   Cr
   0.4
   0.3
   0.3
   0.3
   0.2
   0.3
   0.4
   Glucose
   131
   114
   105
   132
   126
   120
   114
   Other labs: PT / PTT / INR:14.1/37.9/1.2, ALT / AST:86/104, Alk Phos /
   T Bili:505/2.7, Amylase / Lipase:30/85, Differential-Neuts:61.0 %,
   Band:1.0 %, Lymph:22.0 %, Mono:10.0 %, Eos:5.0 %, Fibrinogen:200 mg/dL,
   Lactic Acid:2.3 mmol/L, Albumin:2.6 g/dL, LDH:342 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Imaging: CTA CAP [**2180-3-13**]
   IMPRESSION:
   1. Status post TAH-BSO and [**Month/Day/Year **] tumor removal , there are now multiple
   fluid collections within the peritoneal cavity-in the left anterior
   pararenal space, within the root of the mesentry and in the surgical
   resection site at the base of the bladder.
   2. No pulmonary embolism is noted within the main pulmonary artery and
   its main branches. The evaluation for subsegmental pulmonary embolism
   was limited due to motion and poor bolus.
   3.High density material around the liver was not present on prior
   studies and
   raises the possiblity of leak.
   4. Small left pleural effusion.
   Microbiology: [**3-13**] C. Diff negative
   [**3-9**] Bcx x4: NGTD
   [**3-11**] Bcx x4: NGTD
   [**3-13**] Bcx x2: NGTD
   Assessment and Plan
   44 yo F with [**Month/Year (2) **] s/p supracervical hysterectomy and BSO, c/b SBO s/p
   resection and colostomy now with recent SB perforation s/p SB resection
   and side-side anastomosis with open abdomen in [**Hospital Unit Name 44**] for monitoring
   given open abdomen now extubated but continues to have low grade temps
   # Small bowel perforation s/p anastomosis from small bowel
   perforation/[**Hospital Unit Name **]: Had been unable to close abdomen due to significant
   edema.  Now s/p fascial closure in the OR, no further plans for
   closure.  Abdomen will close by secondary intention.
   - Appreciate OB-gyn and general surgery recs- no further OR.  CT
   abdomen with leak concerning for small bowel perf. Also concerning for
   small abscesses per radiology read.
   - Hold off on tube feeds for now.  Per surgery, started on vanc/zosyn
   for bowel perf, low temps, elevated WBC. No plans for debridement
   - Vanc/zosyn as above
   - Vac change q3 days per surgery
   - Peritoneal fluid with c.albicans, no other positive cx data
   - Heme/onc consult for [**Last Name (LF) **], [**First Name3 (LF) 178**] be staffed today
   - Goal I/O even
   # Respiratory: Extubated [**2180-3-12**]. CXR clear, no sputum production.
   # Leukocytosis: WBC remains elevated, trending down slightly.
   Discontinued antibiotics after 10 day course, restarted vanc/zosyn
   [**2180-3-14**] as above.
   - Likely abdominal (abscess, perf) source of fever and leukocytosis, ?
   CVL as source, though no positive blood cultures
   - All bcx NG; peritoneal fluid growing yeast as above, continue to
   follow micro
   - Culture if spikes
   - Will attempt to have PICC placed today and remove line, will send for
   culture once removed
   # Nausea/vomiting:  Resolved.  Likely due to component of ileus in
   setting of prolonged fentanyl use and surgical manipulation, also may
   be rxn to meds, esp opiates.  Tolerated tube feeds yesterday until
   stopped due to question of perf, now tolerating NGT to gravity
   - NGT in place, continue trial to gravity and consider removal later
   today or tomorrow if no further nausea
   - Hold TF while there is perforation
   - Antiemetics PRN
   # Tachycardia: Not responsive to IVF. Urine output still adequate.
   Given tremor and delirium, concern over benzo withdrawal. Patient was
   loaded with valium with little improvement. CIWA has been 0-1 for the
   last 24 hours and delirium improved.
    - Can dc CIWA scale today as no further evidence of withdrawal.
    - CTA without evidence of PE
   - Patient appears to be normovolemic, not complaining of any pain, no
   other obvious cause for sinus tachycardia
   - Per surgery request, patient started on IV lopressor q4H with holding
   parameters today, will continue to reevaluate and discontinue as able
   # Anemia: Hct stable over last several days.
   - Transfuse for HD instability or acute drop
   - Guaiac any ostomy output- guaiac positive.  But hct stable
   - Continue to monitor Hct qday unless acute HD change
   - Keep active type and screen
   # Anasarca: Significant improvement.
   - Likely from IVFs, deconditioning, low albumin
   - I/O goals as above.
   # Transaminitis
   - Liver path most c/w systemic process such as sepsis/hypotension/drug
   effect, current elevation may be due to cholestasis from TPN
   - Avoid hepatotoxins, continue to trend, increased slightly over last
   few days
   # DVT: new LUE swelling, US negative for DVT.  Patient was previously
   maintained on heparin gtt but had IVC filter placed in the setting of
   emergent OR.
   - IVC filter in place
   - SC heparin
   - Holding off on hep gtt given ? perf and guaiac positive stools
   # Hypertension: Stable.  Has been hypertensive over last few days.  On
   three-drug antihypertensive regimen at home.  Will avoid PO agents due
   to ileus and concerns above.
   - Tx with IV hydralazine Q6 for now with parameters, also started on
   lopressor today as above.
   - Transition back to home meds when able
   - continue to monitor.
   # FEN: On TPN, holding TF as above
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2180-3-14**] 06:00 PM 52.[**Telephone/Fax (3) 1664**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2180-2-28**] 10:00 PM
   Prophylaxis:
   DVT: Boots, IVC filter
   Stress ulcer: H2 blocker
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Consider call out to surgery today

2180-03-15 12:00:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   44 yo F w/pelvic mass (GIST tumor) s/p supracervical hysterectomy and
   BSO c/b SBO
 s/p resection/colostomy
 back to OR for SB anastamosis
   leak; unable to close abd after surgery [**12-25**] edema and [**Last Name (LF) 2363**], [**First Name3 (LF) **] left
   open.  Multiple reattempts at closing failed- now has VAC in place w/no
   plans for further surgery.  Completed 10d course vanc/zosyn/fluc for
   [**Female First Name (un) 188**] and strep viridans in peritoneal fluid.  Extubated [**3-11**];
   post-extubation course notable for delirium, now resolved and
   difficulty tolerating TF.  Spiking fevers- likely abd source given
   multiple small abscesses seen on abd CT; on empiric vanco/zosyn.
   24 Hour Events:
 ULTRASOUND - At [**2180-3-14**] 04:35 PM
   ?SB leak on CT, holding TF.  Also w/multiple abscesses on abd CT;
   started empiric vanco zosyn.
   LUENI neg for DVT.
   No PT per surgery given concern for wound dehiscence.
   Tm 100.6.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2180-3-14**] 05:25 PM
   Ciprofloxacin - [**2180-3-14**] 06:17 PM
   Piperacillin/Tazobactam (Zosyn) - [**2180-3-15**] 04:30 AM
   Vancomycin - [**2180-3-15**] 08:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2180-3-15**] 02:01 AM
   Hydralazine - [**2180-3-15**] 06:45 AM
   Heparin Sodium (Prophylaxis) - [**2180-3-15**] 10:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-3-15**] 11:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.7
C (99.8
   HR: 125 (112 - 133) bpm
   BP: 147/113(121) {127/67(81) - 160/113(121)} mmHg
   RR: 19 (16 - 20) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 92.5 kg (admission): 127 kg
   Height: 61 Inch
             Total In:
                                                                  2,466 mL
                                                                    997 mL
   PO:
             TF:
                                                                     40 mL
   IVF:
                                                                  1,194 mL
                                                                    393 mL
   Blood products:
   Total out:
                                                                  1,565 mL
                                                                  1,480 mL
   Urine:
                                                                  1,240 mL
                                                                  1,370 mL
   NG:
                                                                    100 mL
                                                                    110 mL
   Stool:
   Drains:
   Balance:
                                                                    901 mL
                                                                   -483 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: b/l bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, VAC dressing
   Extremities: Right: 1+, Left: 2+, LUE edema
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, place, date, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   544 K/uL
   114 mg/dL
   0.4 mg/dL
   24 mEq/L
   4.3 mEq/L
   10 mg/dL
   106 mEq/L
   137 mEq/L
   25.3 %
   13.8 K/uL
        [image002.jpg]
                             [**2180-3-9**]  10:32 PM
                             [**2180-3-10**]  05:20 AM
                             [**2180-3-11**]  03:51 AM
                             [**2180-3-11**]  08:14 AM
                             [**2180-3-12**]  04:48 AM
                             [**2180-3-12**]  02:15 PM
                             [**2180-3-13**]  04:26 AM
                             [**2180-3-14**]  04:30 AM
                             [**2180-3-14**]  04:21 PM
                             [**2180-3-15**]  04:13 AM
   WBC
   13.6
   12.8
   15.9
   17.9
   14.2
   15.1
   14.2
   13.8
   Hct
   30.9
   30.2
   27.2
   27.5
   25.8
   26.2
   25.4
   26.0
   26.0
   25.3
   Plt
   235
   264
   317
   326
   354
   448
   547
   544
   Cr
   0.4
   0.3
   0.3
   0.3
   0.2
   0.3
   0.4
   Glucose
   131
   114
   105
   132
   126
   120
   114
   Other labs: PT / PTT / INR:14.1/37.9/1.2, ALT / AST:86/104, Alk Phos /
   T Bili:505/2.7, Amylase / Lipase:30/85, Differential-Neuts:61.0 %,
   Band:1.0 %, Lymph:22.0 %, Mono:10.0 %, Eos:5.0 %, Fibrinogen:200 mg/dL,
   Lactic Acid:2.3 mmol/L, Albumin:2.6 g/dL, LDH:342 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Microbiology: No new micro
   c diff neg x1
   Assessment and Plan
   44 yo female s/p GIST tumor resection c/b SBO perf s/p
   resection/colostomy with open abdominal wound. Extubated [**3-12**]; had post
   extubation delerium- now resolved.
   #Bowel perforation
   -empiric vanc/zosyn
   -TPN, holding TF given ?SB leak
   #GIST
   -onc to see today
   #Leukocytosis/fever - abd (abscesses + ?SB leak) is likely source, but
   also has old CVL
   -cxs NGTD
   -d/c CVL, PICC line instead
   -empiric abx as above
   -CIS
   #N/V
   -TF on hold given above issues, but N/V improved and tol NGT clamped.
   #DVT
   -s/p IVC filter, no heparin until ok per sugery
   #Sinus tachycardia
   -no clear etiology
   -lopressor 5mg IV q6hrs w/hold parameters
   #Anemia
   -guaiac positive stools but Hct stable on past several checks
   #Hyperbilirubinemia
   -?cholestasis [**12-25**] TPN, following
   #HTN
   -IV hydralazine and lopressor
   #Resp failure
   s/p extubation with no oxygen requirement, no resp distress
   #PPx
   -Sc heparin
   -famotidine
   #Dispo call out
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2180-3-14**] 06:00 PM 52.[**Telephone/Fax (3) 1664**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-2-28**] 10:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: